2164-02-09 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRAUMA LINE - START [**2164-2-8**] 08:40 PM
 EKG - At [**2164-2-8**] 09:00 PM
 SPUTUM CULTURE - At [**2164-2-8**] 09:00 PM
 EKG - At [**2164-2-8**] 11:55 PM
 URINE CULTURE - At [**2164-2-9**] 12:00 AM
 ARTERIAL LINE - START [**2164-2-9**] 02:00 AM
 NASAL SWAB - At [**2164-2-9**] 05:55 AM
 FEVER - 102.5
F - [**2164-2-9**] 04:00 AM
   Pt intermittently required Levophed yesterday for a MAPs on NIBP
   measurement of 40s-50s, following placement of A-line MAPs noted to be
   >65.
   Pt placed on Versed and Fentanyl gtt for agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 06:01 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-2-8**] 11:00 PM
   Diltiazem - [**2164-2-8**] 11:40 PM
   Pantoprazole (Protonix) - [**2164-2-9**] 12:00 AM
   Lorazepam (Ativan) - [**2164-2-9**] 02:38 AM
   Morphine Sulfate - [**2164-2-9**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-9**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39.2
C (102.5
   HR: 83 (71 - 124) bpm
   BP: 141/54(82) {130/47(73) - 160/57(86)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  1,510 mL
                                                                  6,441 mL
   PO:
           TF:
   IVF:
                                                                  1,510 mL
                                                                  1,383 mL
   Blood products:
   558 mL
   Total out:
                                                                    150 mL
                                                                    210 mL
   Urine:
                                                                    150 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                  6,232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 400) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.34/31/129/14/-7
   Ve: 9 L/min
   PaO2 / FiO2: 161
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   7.6 g/dL
   96 mg/dL
   1.4 mg/dL
   14 mEq/L
   4.4 mEq/L
   38 mg/dL
   111 mEq/L
   137 mEq/L
   23.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2164-2-8**]  10:30 PM
                             [**2164-2-8**]  11:19 PM
                             [**2164-2-8**]  11:54 PM
                             [**2164-2-9**]  04:24 AM
                             [**2164-2-9**]  04:45 AM
   WBC
   6.6
   Hct
   15.9
   18.9
   23.8
   Plt
   226
   Cr
   1.4
   TropT
   <0.01
   TCO2
   18
   17
   Glucose
   96
   Other labs: PT / PTT / INR:17.1/59.3/1.5, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:6.5
   mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   1. Sepsis: Meets SIRS criteria with tachycardia, temperature of 102,
   tachypnea and white blood count with bandemia. WBC have trended down to
   6.6. however he still has impressive bandemia. Likely source of SIRS is
   pneumonia.  Lactate initially noted to be 6.1, however following fluid
   administration is 1.9. Pt was started on Levofloxacin, Cefepime,
   Vancomycin in the ED. Zosyn IV was started yesterday for broad
   coverage, Levofloxacin for atypical coverage, Vancomycin for MRSA
   coverage given his h.o. of MRSA. Last night pt intermittently required
   pressure support of Levophed however following placement of A-line his
   MAP have been >65 and Levophed has been discontinued.
   --> Continue Zosyn, Levofloxacin, Vancomycin, narrow spectrum if
   cultures turn positive
   --> Sputum cx, bld cx pending. Legionella antigen negative, will send
   DFA for influenza.
   --> Maintain MAP > 65
   --> Continue to trend WBC, bandemia.
   .
   2. Hypotension: Pt was initially hypotensive on transfer to the floor
   likely [**3-5**] infection/sepsis. Pt received a total of 5l NS in the ED
   however still noted to have a SBP in the 90s. Pt was started on
   Levophed gtt in the ED. Hypotension may be a combination of hypovolemic
   state [**3-5**] poor PO intake, SIRS and Fentanyl/Versed. Following placement
   of A-line MAPs have been >65, pt has not required any Levoiphed.
   --> continue to monitor for MAP >65
   .
   3. Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Repeat Hct noted to be 15 last night and
   23.8 this morning s/p 2units.  23.8 not true post-transfusion Hct will
   recheck at 1200 and transfuse for a goal Hct of >25. Will continue
   guaiaic stools x 3, PPI [**Hospital1 **] though likely LGI bld. Patient endorses
   over the past few days BRBPR quantified as enough to fill a toilet
   [**Last Name (LF) 3860**], [**First Name3 (LF) 77**] son he has a history of BRBPR from ?hemorrhoids.? GI source
   versus malignancy related (met prostate ca). Will consult GI today and
   keep NPO pending their consult
   --> Repeat Hct at 1200, transfuse to goal of 25
   --> PPI started, guaiaic stools x 3
   --> GI consult today, f.u GI recs.
   .
   4. Pneumonia: Chest x-ray in ED notable for RLL and RML PNA, pt noted
   to have volumous secretions from his trach as well as a fever (rectal
   temp 104.4), leukocytosis to 12.6 with bandemia. Prior to transfer to
   the floor he was noted to be hypoxic requiring intubation and
   ventilatory support. Hypotension has also been noted requiring
   Levophed. Pt started on ARDs protocol though he is taking in volume
   greater than 6cc/kg.
   --> As mentioned above Zosyn, Levofloxacin, Vancomycin
   --> Sputum cultures, DFA ordered
   --> Follow bcx as above
   --> Continue vent support on ARDS protocol, wean as tolerated, on PSV
   and tolerating well
   .
   5. New onset A-Fib: Pt noted to be in A-fib new onset in the ED at a
   rate within the 200s, diltiazem 10mg IV x 2 reduced HR to 150s, fluid
   administration further lowered to 130s. On arrival to the floor pt
   received an additional 10mg IV Diltiazem x 3 on the floor which reduced
   his HR to 100-120s and received PO 12.5mg Metoprolol Tartrate x 1.
   Last night pt spontaneously reverted to sinus rhythm, unclear as to the
   etiology of the A. fib, tachycardia most likely [**3-5**] poor volemic state.
   Will ass TSH to ensure A fib is not secondary supratherapeutic
   Synthroid dose. TTE has been order for today.
   --> TTE ordered today to assess new A. fib
 If A-fib recurs again at rate >100 consider Metoprolol 12.5 mg TID if
   BP can tolerate.
   .
   6. Acute Kidney Injury: Prior Creatinine noted to be 1.1-1.2, pt
   currently is in [**Last Name (un) **] with a Creatinine of 1.4 improved from 1.8. [**Last Name (un) **]
   most likely pre-renal given his current state of hypovolemia and anema.
   Pt still having poor urine output which may a sign that he is still
   pre-renal versus ATN. Will continue to monitor. Will check urine lytes.
   --> trend Cr following fluid administration
   --> Send urine lytes in am if no improvement
   .
   7. Stoma: Pt currently has stoma, given his clinical picture he will
   likely require intubation for several days. Will discuss with ENt
   whether a trach would be better suited for ventilator treatment rather
   than the stoma.
   .
   8. Agitation: Pt will get agitated to the point that his blood pressure
   increases to the high 180s, becomes tachycardic, RR in the 40s and
   hypoxic to the mid 80s. Pt was receiving prn Lorazepam and Morphine
   yesterday however given his continued agitation Versed and Fentanyl
   drip were started.
 Titrate Versed and Fentanyl gtt for anxiety control
   .
   9. Hypotyhroidism: Continue home regimen of Levothyroxine. Will check
   TSH to ensure pt is not supratherapeutic given his new onset A. fib.
   .
   10. FEN/Lytes: NPO today until  GI recs given the concern for bld,
   replete lytes prn, IVF prn
   .
   11. Prophylaxis: Pneumoboots, already on PPI. Hold on SQH given
   bleed/anemia
   .
   12. Code status: FULL CODE
   .
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2164-2-8**] 08:40 PM
   22 Gauge - [**2164-2-8**] 09:00 PM
   20 Gauge - [**2164-2-8**] 10:10 PM
   Arterial Line - [**2164-2-9**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-09 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo w/ met prostate ca (bone), pap thyroid ca, SCC larynx s/p
   thyroidectomy, total laryngectomy, tracheal stoma, admitted [**2-8**] with
   respiratory failure due to multifocal pneumonia. Also with
   hematochezia, afib w/ RVR, ARF.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 06:01 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-2-8**] 11:00 PM
   Diltiazem - [**2164-2-8**] 11:40 PM
   Pantoprazole (Protonix) - [**2164-2-9**] 12:00 AM
   Lorazepam (Ativan) - [**2164-2-9**] 02:38 AM
   Morphine Sulfate - [**2164-2-9**] 03:00 AM
   Other medications:
   levofloxacin 750 q48, Peridex, FeSO4, Synthroid, Vanco 1gq48. Holding
   home lisinopril.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-9**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.3
C (101
   HR: 94 (71 - 124) bpm
   BP: 165/58(94) {130/47(73) - 165/58(94)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  1,510 mL
                                                                  6,502 mL
   PO:
           TF:
   IVF:
                                                                  1,510 mL
                                                                  1,444 mL
   Blood products:
   558 mL
   Total out:
                                                                    150 mL
                                                                    270 mL
   Urine:
                                                                    150 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                  6,232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 400) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 92%
   ABG: 7.34/31/129/14/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 129
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach stoma w/ ETT through
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   lat R, clear L)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   226 K/uL
   96 mg/dL
   1.4 mg/dL
   14 mEq/L
   4.4 mEq/L
   38 mg/dL
   111 mEq/L
   137 mEq/L
   23.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2164-2-8**]  10:30 PM
                             [**2164-2-8**]  11:19 PM
                             [**2164-2-8**]  11:54 PM
                             [**2164-2-9**]  04:24 AM
                             [**2164-2-9**]  04:45 AM
   WBC
   6.6
   Hct
   15.9
   18.9
   23.8
   Plt
   226
   Cr
   1.8
   1.4
   TropT
   <0.01
   TCO2
   18
   17
   Glucose
   96
   Other labs: PT / PTT / INR:17.1/59.3/1.5, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:6.5
   mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR- RUL, RML consolidation, L effusion
   Microbiology: Sputum, Bloodx2, Urine- pending
   Legionella Ag- neg
   Assessment and Plan
   PRESUMED SEPSIS- resp infxn as likely source, fluid responsive
   hypotension, now fluid replete
   -pan-cx pending
   -cont vanco + Zosyn + levoflox for now pending cx data
   -currently has R groin line for access --> will attempt to replace w/
   subclavian line
   RESPIRATORY FAILURE- multifocal R-sided pna, underlying smoking hx, now
   w/ evidence of [**Doctor Last Name 76**]
   -have ENT to place trach for better IPPV
   -tx pna as above
   -screen for influenza
   -monitor for wheezing, iPEEP
   -low Vt, lung-protective ventilation strategy
   -wean FiO2, ok to use PEEP titration up now given PIP's reasonable
   -accept permissive hypercapnia for now
   HEMATOCHEZIA- Hct responded appropriately to PRBC transfusion
   -GI consult, keep npo, bowel rest
   -serial Hcts
   AFIB W/ RVR- likely related to hypovolemia, now rate controlled
   -rate controlled now
   -recheck TSH given Synthroid tx
   -check echo
   ACUTE RENAL FAILURE- related to hypovolemia, resolving but still
   oliguric
   -cont to monitor
   -f/u urine lytes, UA
   GOALS OF CARE- given overall poor prognosis, would address code status
   and discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Trauma line - [**2164-2-8**] 08:40 PM
   22 Gauge - [**2164-2-8**] 09:00 PM
   20 Gauge - [**2164-2-8**] 10:10 PM
   Arterial Line - [**2164-2-9**] 02:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2164-02-10 10:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   hypotension yest pm- total of 2LNS (and 2u PRBC) given, and Levophed
   resumed. Sedation for vent dyssynchrony. NSVT also noted o/n.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-10**] 05:25 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-10**] 12:09 AM
   Other medications:
   FeSO4, synthroid, Norepi (0.1), Peridex, Fentanyl gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-10**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 35.3
C (95.6
   HR: 57 (57 - 88) bpm
   BP: 111/54(74) {97/33(53) - 147/75(96)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  8,947 mL
                                                                  1,609 mL
   PO:
             TF:
   IVF:
                                                                  3,139 mL
                                                                  1,609 mL
   Blood products:
                                                                  1,308 mL
   Total out:
                                                                    845 mL
                                                                    164 mL
   Urine:
                                                                    845 mL
                                                                    164 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,102 mL
                                                                  1,446 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.21/35/98
   Ve: 6.8 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, OG tube, trach stoma
   w/ ETT
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilat)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   171 K/uL
   86 mg/dL
   1.8 mg/dL
   13 mEq/L
   4.2 mEq/L
   47 mg/dL
   116 mEq/L
   143 mEq/L
   27.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2164-2-9**]  04:24 AM
                             [**2164-2-9**]  04:45 AM
                             [**2164-2-9**]  11:50 AM
                             [**2164-2-9**]  12:18 PM
                             [**2164-2-9**]  03:14 PM
                             [**2164-2-9**]  08:55 PM
                             [**2164-2-9**]  11:20 PM
                             [**2164-2-10**]  03:50 AM
                             [**2164-2-10**]  04:25 AM
                             [**2164-2-10**]  06:08 AM
   WBC
   6.6+3
   10.5
   Hct
   23.8
   21.8
   28.4
   27.9
   Plt
   226
   171
   Cr
   1.4
   1.8
   TropT
   <0.01
   TCO2
   17
   17
   17
   18
   16
   15
   Glucose
   96
   86
   Other labs: PT / PTT / INR:14.4/48.3/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.9, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Fluid analysis / Other labs: vanco-5.9 (this AM)
   Microbiology: Blood- NGTD
   Legionella Ag- neg
   Assessment and Plan
   PRESUMED SEPSIS- resp infxn as likely source, fluid responsive
   hypotension, now fluid replete
   -pan-cx pending
   -cont vanco + Zosyn + levoflox for now pending cx data  --> incr vanco
   dosing 1g q12 today
   -currently has R groin line for access --> will attempt to pull today
   if off pressors consistently
   RESPIRATORY FAILURE- multifocal R-sided pna, underlying smoking hx, now
   w/ evidence of [**Doctor Last Name 76**]; vent dyssynchrony o/n leading to incr sedation and
   decr Ve. PCO2 from 20s to 30s has contributed to worsening acidemia
   -have ENT to place trach for better IPPV
   -tx pna as above
   -screen for influenza
   -monitor for wheezing, iPEEP
   -low Vt, lung-protective ventilation strategy
   -wean FiO2, ok to use PEEP titration up now given PIP's reasonable
   -need to incr Ve slightly. Room based on PIP and plateau pressures to
   incr Vt
   HEMATOCHEZIA- Hct responded appropriately to PRBC transfusion
   -GI consult, keep npo, bowel rest
   -serial Hcts
   AFIB W/ RVR- likely related to hypovolemia, now rate controlled
   -rate controlled now
   -TSH nl
   -echo nl but for biatrial enlargement
   ACUTE RENAL FAILURE- related to hypovolemia, resolving but still
   oliguric. Also w/ nongap metabolic acidemia likely from
   hyper-chloridemia
   -if fluids needed use 1/2 NS or LR
   -cont to monitor
   -f/u urine lytes, UA
   GOALS OF CARE- given overall poor prognosis, would address code status
   and discuss goals of care --> fam mtg today
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Trauma line - [**2164-2-8**] 08:40 PM
   22 Gauge - [**2164-2-8**] 09:00 PM
   Arterial Line - [**2164-2-9**] 02:00 AM
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: Had prolonged (45 min family meeing to
   discuss status, prognosis and issues related to code status)
   Code status: Full code
   Disposition :ICU
   Total time spent: 95 minutes
   Patient is critically ill

2164-02-11 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2164-2-10**] 10:26 PM
 ARTERIAL LINE - STOP [**2164-2-10**] 11:43 PM
   - family meeting - still full code for now, will decide as a family and
   let us know
   - ENT not yet replaced ETT with trach
   - hct stable at 28.9 at 11am, 30 at 5pm
   - did not pull fem line as still on pressors
   - repeat pm ABG after increasing Tv: 7.24/30/121 unchanged from this
   morning)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-10**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-11**] 05:46 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 56 (53 - 62) bpm
   BP: 120/60(71) {113/57(69) - 131/60(75)} mmHg
   RR: 18 (16 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  2,809 mL
                                                                    532 mL
   PO:
             TF:
   IVF:
                                                                  2,629 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                    311 mL
                                                                    128 mL
   Urine:
                                                                    311 mL
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,498 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.20/39/113/16/-11
   Ve: 7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General: Slightly tired appearing Elderly Asian Male intubated via
   stoma.
   HEENT: PERRL, EOMI, no scleral icterus, MMM
   Neck: Supple, no significant JVP
   Pulmonary: Rt hemithorax course BS, clear over lt hemithorax.
   Cardiac: S1 S2, tachy (100), regular
   Abdomen: Soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: [**3-6**]+ edema noted in upper extermities, 2+ lt radial pulse,
   weak rt radial pulse,
   Neurologic: Intubated, spontaneously opens his eyes.
   Labs / Radiology
   150 K/uL
   9.7 g/dL
   93 mg/dL
   2.7 mg/dL
   16 mEq/L
   4.2 mEq/L
   61 mg/dL
   114 mEq/L
   140 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2164-2-10**]  09:34 AM
                             [**2164-2-10**]  11:05 AM
                             [**2164-2-10**]  11:19 AM
                             [**2164-2-10**]  03:59 PM
                             [**2164-2-10**]  07:03 PM
                             [**2164-2-10**]  07:15 PM
                             [**2164-2-10**]  11:51 PM
                             [**2164-2-11**]  12:29 AM
                             [**2164-2-11**]  04:20 AM
                             [**2164-2-11**]  05:52 AM
   WBC
   11.5
   Hct
   28.9
   30.3
   26
   29.2
   31.3
   29.7
   30.0
   Plt
   150
   Cr
   2.7
   TCO2
   15
   16
   13
   16
   Glucose
   119
   93
   Other labs: PT / PTT / INR:14.4/44.1/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   # Sepsis: On admission patient met SIRS criteria with tachycardia,
   temperature of 102, tachypnea and white blood count with bandemia. WBC
   have increased to trended down to 6.6. however he still has impressive
   bandemia. Likely source of SIRS is pneumonia.  Lactate initially noted
   to be 6.1, however following fluid administration is 1.9. Pt was
   started on Levofloxacin, Cefepime, Vancomycin in the ED. Zosyn IV was
   started for broad coverage, Levofloxacin for atypical coverage,
   Vancomycin for MRSA coverage given his h.o. of MRSA. Yesterday he
   became hypotensive and required pressure support again with Levophed as
   well as frequent IVF boluses. Today he has been able to wean off the
   levophed gtt.
   - Continue Zosyn, Levofloxacin, Vancomycin, narrow spectrum if cultures
   turn positive; will increase vanc dosing to daily as his vanc trough
   was low today.
   - Sputum cx, bld cx pending. Legionella antigen negative, will send DFA
   for influenza.
   - Maintain MAP > 65, if pt requires vasopressor support will started
   levophed with vasopressin, will then attempt to wean off levophed and
   keep vasopressin for a 24 hour period.
   - Continue to trend WBC
   # Metabolic acidosis: The patient has a non-anion gap acidosis most
   likely related to his vast fluid resuscitation with normal saline. Will
   give D5W with 3 amps of HCO3 today to aid with pH. If pt requires any
   more IVF boluses will use LR and monitor for possible hyperkalemia
   given his current [**Last Name (un) **].
   - Support his BP as below to maintain pefusion to his kidneys.
   - Will give 1l D5W with 3 amps HCO3 today, if further IVF needed will
   bolus with LR and monitor lytes for hyperkalemia.
   - Continue to follow his pH on ABGs.
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.
   - Active type and screen
   - Continue to monitor Hct
   # Pneumonia: Chest x-ray today looks worse. Hypotension returned
   yesterday requiring Levophed to be restarted. Pt started on ARDs
   protocol though he is taking in volume greater than 6cc/kg.  Urinary
   legionella negative.
   - Continue Zosyn, Levofloxacin, and Vancomycin with increased vanc
   dosing as above.
   - Sputum cultures, DFA ordered
   - Follow bcx as above
   - Continue vent support on pressure support and decrease sedation as
   CXR doesn
t show evidence of ARDS, wean as tolerated
   - Wean Versed and Fentanyl gtt as tolerated
   # New onset A-Fib: Pt noted to be in A-fib new onset in the ED which
   resolved once in the ICU.  He has been in sinus rhythm.
   - If A-fib recurs again at rate >100 consider starting digoxin vs
   amiodarone.
   - Monitor on tele
   # Acute Kidney Injury: The patient
s Cr increased 2.7, baseline
   Creatinine noted to be 1.1-1.2.  Given low urine output [**Last Name (un) **] most likely
   [**3-5**] ATN versus pre-renal. Will continue to give fluid today and monitor
   UOP.
   - trend Cr
   # Stoma: Pt currently has stoma, given his clinical picture he will
   likely require intubation for several days. ENT consulted yesterday for
   trach placement however were unable to place as another pt needed a
   STAT airway.
   - Will consult ENT again today for trach placement as it is likely pt
   will need to be intubated over the next few days.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2164-2-8**] 08:40 PM
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-11 11:37:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, hypotension, respiratory failure, acute
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has required increased vasopressors in past 24 hours. Continues on
   ventilator. Urine output is low.
   24 Hour Events:
 URINE CULTURE - At [**2164-2-10**] 10:26 PM
 ARTERIAL LINE - STOP [**2164-2-10**] 11:43 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-11**] 05:46 AM
   Vancomycin - [**2164-2-11**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-11**] 12:00 AM
   Other medications:
   iron, synthroid, levoflox,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-11**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 62 (53 - 62) bpm
   BP: 122/47(64) {113/47(61) - 131/60(75)} mmHg
   RR: 18 (16 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  2,809 mL
                                                                    898 mL
   PO:
             TF:
   IVF:
                                                                  2,629 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                    311 mL
                                                                    238 mL
   Urine:
                                                                    311 mL
                                                                    238 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,498 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.20/39/113/16/-11
   Ve: 7.3 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, ETT via stoma
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral with few rales on right, Crackles
   : , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   150 K/uL
   93 mg/dL
   2.7 mg/dL
   16 mEq/L
   4.2 mEq/L
   61 mg/dL
   114 mEq/L
   140 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2164-2-10**]  09:34 AM
                             [**2164-2-10**]  11:05 AM
                             [**2164-2-10**]  11:19 AM
                             [**2164-2-10**]  03:59 PM
                             [**2164-2-10**]  07:03 PM
                             [**2164-2-10**]  07:15 PM
                             [**2164-2-10**]  11:51 PM
                             [**2164-2-11**]  12:29 AM
                             [**2164-2-11**]  04:20 AM
                             [**2164-2-11**]  05:52 AM
   WBC
   11.5
   Hct
   28.9
   30.3
   26
   29.2
   31.3
   29.7
   30.0
   Plt
   150
   Cr
   2.7
   TCO2
   15
   16
   13
   16
   Glucose
   119
   93
   Other labs: PT / PTT / INR:14.4/44.1/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR: diffuse alveolar infiltrate in right hemithorax.
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ACUTE RENAL FAILURE
   Dose of levophed being reduced; if we cannot wean off levophed, start
   vasopressin. Will give 1 L of D5W with 3 amps of bicarbonate. This will
   help facilitate weaning from pressors and correct the hyperchloremic
   non-gap acidosis, likely due to volume resuscitation with NS. [**Last Name (un) **] the
   bicarb, would use Lactated Ringers for fluids as long as urine output
   is adequate.
   Creat still rising; concerning for ATN. Continue volume resuscitation
   as above. Watch oxygenation and urine output.
   I dropped the PEEP on rounds and FIO2 to 0.4. CXR does not suggest
   ARDS; more consistent with bacterial pneumonia. Will lighten sedation;
   try to switch to PSV. ENT to place trach tube in stoma.
   Hct stable. Not at threshold for transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Trauma line - [**2164-2-8**] 08:40 PM
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2164-02-12 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ENT replaced trach now 7.0.
   - PEEP reduced to 5, pt destaurated to mid 70s and tachycardic to the
   low 100s. ABGs showed 7.32/35/45. PEEP was increased up to 12, FiO2 50%
   ABG showed 7.33/36/78
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-12**] 05:33 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-12**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-12**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 70 (59 - 108) bpm
   BP: 117/42(60) {109/40(57) - 198/112(126)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,837 mL
                                                                    277 mL
   PO:
             TF:
   IVF:
                                                                  2,627 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                    738 mL
                                                                    295 mL
   Urine:
                                                                    738 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,099 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 542 (542 - 542) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.33/36/77.[**Numeric Identifier 253**]/20/-6
   Ve: 8 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General: Elderly Asian Male intubated via trach.
   Pulmonary: Rt hemithorax course BS, clear over lt hemithorax.
   Cardiac: S1 S2, regular rate, rhythm, no murmurs, gallops or rubs
   auscultated
    Abdomen: Soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: [**3-6**]+ edema noted in upper extermities, 2+ lt radial pulse,
   weak rt radial pulse
   Neurologic: Intubated, spontaneously opens his eyes.
   Labs / Radiology
   128 K/uL
   9.2 g/dL
   72 mg/dL
   3.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   60 mg/dL
   110 mEq/L
   140 mEq/L
   28.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2164-2-10**]  07:03 PM
                             [**2164-2-10**]  07:15 PM
                             [**2164-2-10**]  11:51 PM
                             [**2164-2-11**]  12:29 AM
                             [**2164-2-11**]  04:20 AM
                             [**2164-2-11**]  05:52 AM
                             [**2164-2-11**]  05:00 PM
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
   WBC
   11.5
   10.0
   Hct
   26
   29.2
   31.3
   29.7
   30.0
   28.6
   Plt
   150
   128
   Cr
   2.7
   2.9
   3.0
   TCO2
   13
   16
   19
   20
   Glucose
   93
   111
   72
   Other labs: PT / PTT / INR:14.0/42.9/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:6.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   #. Sepsis: On admission patient met SIRS criteria with tachycardia,
   temperature of 102, tachypnea and white blood count with bandemia. WBC
   have increased to trended down to 6.6. however he still has impressive
   bandemia. Likely source of SIRS is pneumonia.  Lactate initially noted
   to be 6.1, however following fluid administration is 1.9. Pt was
   started on Levofloxacin, Cefepime, Vancomycin in the ED. Zosyn IV was
   started for broad coverage, Levofloxacin for atypical coverage,
   Vancomycin for MRSA coverage given his h.o. of MRSA. Yesterday he
   became hypotensive and required pressure support again with Levophed as
   well as frequent IVF boluses. Today he has been able to wean off the
   levophed gtt.
   - Continue Zosyn, Levofloxacin, Vancomycin, narrow spectrum if cultures
   turn positive; will increase vanc dosing to daily as his vanc trough
   was low today.
   - Sputum cx, bld cx pending. Legionella antigen negative, DFA for
   influenza pending.
   - Maintain MAP > 65, if pt requires vasopressor support will started
   levophed with vasopressin, will then attempt to wean off levophed and
   keep vasopressin for a 24 hour period. Will start pt on bolus of LR for
   IVF resuscitation.
   - Continue to trend WBC
   #. Metabolic acidosis: The patient has a non-anion gap acidosis most
   likely related to his vast fluid resuscitation with normal saline.
   Following administration of 1L D5W with 3 amps of HCO3 pt
s CO2
   increased from 16 to 20. Will bolus IVF with LR and check PM lytes to
   monitor for hyperkalemia.
   - Support his BP as below to maintain pefusion to his kidneys.
   - IVF bolus with LR and monitor lytes for hyperkalemia.
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.  As pt has had not decrease in Hct over the past
   few days, will restart Heparin for prophylaxis.
   - Active type and screen
   - Continue to monitor Hct
   # Pneumonia: Culture data thus far negative to date. Pt started on ARDs
   protocol though he is taking in volume greater than 6cc/kg.  Urinary
   legionella negative.
   - Continue Zosyn, Levofloxacin, and Vancomycin with increased vanc
   dosing as above.
   - Sputum cultures, DFA ordered
   - Follow bcx as above
   - Will decrease FiO2 now and see how pt tolerates FiO2 of 40%. Will
   also aim to decrease PEEP from 12 to 8 with the goal of transitioning
   to trach mask with frequent suctioning of secretions.
   - Wean Versed and Fentanyl gtt as tolerated
   # Nutrition: Pt has been without nutrition, will consult nutrition
   regarding TF via NGT.
   - Nutrition consult for TF
   # New onset A-Fib: Pt noted to be in A-fib new onset in the ED which
   resolved once in the ICU.  He has been in sinus rhythm.
   - If A-fib recurs again at rate >100 consider starting digoxin vs
   amiodarone.
   - Monitor on tele
   # Acute Kidney Injury: The patient
s Cr furthered increased to 3.0,
   baseline Creatinine noted to be 1.1-1.2.  Urine lytes have been
   ordered, will again administer IVF boluses with LR given the pt
   non-anion gap metabolic acidosis from NS fluid resuscitation for a goal
   of UOP >30cc/hr. Given low urine output [**Last Name (un) **] most likely [**3-5**] ATN versus
   pre-renal. Will continue to give fluid today and monitor UOP.
   - trend Cr
   # Stoma: Pt currently has stoma, given his clinical picture he will
   likely require intubation for several days. ENT consulted yesterday for
   trach placement however were unable to place as another pt needed a
   STAT airway.
   - ENT placed trach size 7.0 yesterday
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2164-2-8**] 08:40 PM
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: Heparin 5,000u TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-13 06:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - SQH was started.
   - Vanc level was 26.7, so no dose was given.
   - Ulytes were checked and showed a FENA of 0.2
   - He was given 500 cc LR bolus x 3.  His Cr decreased from 3.0 to 2.6
   and his UOP increased.
   - His PEEP was decreased from 12 to 10.
   - His femoral central line was pulled
   -MRSA read negative as final
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-13**] 04:32 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-12**] 11:34 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-13**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 75 (69 - 90) bpm
   BP: 132/55(76) {98/46(60) - 157/65(97)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,812 mL
                                                                    320 mL
   PO:
             TF:
                                                                     98 mL
                                                                    152 mL
   IVF:
                                                                  2,539 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    175 mL
   Urine:
                                                                    910 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,902 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: ///19/
   Ve: 8 L/min
   Physical Examination
   General: Elderly Asian Male intubated via trach.
   Pulmonary: Rt hemithorax course BS, clear over lt hemithorax.
   Cardiac: S1 S2, regular rate, rhythm, no murmurs, gallops or rubs
   auscultated
    Abdomen: Soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: [**3-6**]+ edema noted in upper extermities, 2+ lt radial pulse,
   weak rt radial pulse
   Neurologic: Intubated, spontaneously opens his eyes.
   Labs / Radiology
   119 K/uL
   8.5 g/dL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   3.8 mEq/L
   58 mg/dL
   115 mEq/L
   143 mEq/L
   26.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2164-2-10**]  11:51 PM
                             [**2164-2-11**]  12:29 AM
                             [**2164-2-11**]  04:20 AM
                             [**2164-2-11**]  05:52 AM
                             [**2164-2-11**]  05:00 PM
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
   WBC
   11.5
   10.0
   10.7
   Hct
   31.3
   29.7
   30.0
   28.6
   26.5
   Plt
   150
   128
   119
   Cr
   2.7
   2.9
   3.0
   2.3
   3.0
   TCO2
   16
   19
   20
   Glucose
   93
   111
   72
   58
   99
   Other labs: PT / PTT / INR:14.4/51.6/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:6.6
   mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   #. Sepsis: On admission patient met SIRS criteria with tachycardia,
   temperature of 102, tachypnea and white blood count with bandemia. WBC
   have increased to trended down to 6.6. however he still has impressive
   bandemia. Likely source of SIRS is pneumonia.  Lactate initially noted
   to be 6.1, however following fluid administration is 1.9. Pt was
   started on Levofloxacin, Cefepime, Vancomycin in the ED. Zosyn IV was
   started for broad coverage, Levofloxacin for atypical coverage,
   Vancomycin for MRSA coverage given his h.o. of MRSA. Yesterday he
   became hypotensive and required pressure support again with Levophed as
   well as frequent IVF boluses. Today he has been able to wean off the
   levophed gtt.
   - Continue Zosyn, Levofloxacin, narrow spectrum if cultures turn
   positive
   - will d/c Vancomycin as MRSA screen negative
   - Sputum cx, bld cx pending. Legionella antigen negative, DFA for
   influenza pending.
   - Maintain MAP > 65, if pt requires vasopressor support will started
   levophed with vasopressin, will then attempt to wean off levophed and
   keep vasopressin for a 24 hour period. Will start pt on bolus of LR for
   IVF resuscitation.
   - Continue to trend WBC
   #. Metabolic acidosis: The patient has a non-anion gap acidosis most
   likely related to his vast fluid resuscitation with normal saline.
   Following administration of 1L D5W with 3 amps of HCO3 pt
s CO2
   increased from 16 to 20. Will bolus IVF with LR and check PM lytes to
   monitor for hyperkalemia.
   - Support his BP as below to maintain pefusion to his kidneys.
   - IVF bolus with LR and monitor lytes for hyperkalemia.
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.  As pt has had not decrease in Hct over the past
   few days, will restart Heparin for prophylaxis.
   - Active type and screen
   - Continue to monitor Hct
   # Pneumonia: Culture data thus far negative to date. Pt started on ARDs
   protocol though he is taking in volume greater than 6cc/kg.  Urinary
   legionella negative.
   - Continue Zosyn, Levofloxacin, will d/c Vancomycin as MRSA swab was
   negative
   - Sputum cultures, DFA negative
   - Follow bcx as above
   - Will decrease FiO2 now and see how pt tolerates FiO2 of 40%. Will
   also aim to decrease PEEP from 12 to 8 with the goal of transitioning
   to trach mask with frequent suctioning of secretions.
   - Wean Versed and Fentanyl gtt as tolerated
   # Nutrition: Pt has been without nutrition, will consult nutrition
   regarding TF via NGT.
   - Nutrition consult for TF
   # New onset A-Fib: Pt noted to be in A-fib new onset in the ED which
   resolved once in the ICU.  He has been in sinus rhythm.
   - If A-fib recurs again at rate >100 consider starting digoxin vs
   amiodarone.
   - Monitor on tele
   # Acute Kidney Injury: The patient
s Cr furthered increased to 3.0,
   baseline Creatinine noted to be 1.1-1.2.  Pt
s Creatinine with fluid
   resuscitation with urin output approx 50cc showed a decrease to 2.3,
   however overnight Creatinine increased back up to 3.0. Urine lytes have
   been ordered with a FENA suspicious for pre-renal. Will again
   administer IVF boluses with LR given the pt
s non-anion gap metabolic
   acidosis from NS fluid resuscitation for a goal of UOP >50cc/hr. Given
   low urine output [**Last Name (un) **] most likely [**3-5**] ATN versus pre-renal. Will
   continue to give fluid today and monitor UOP.
   - trend Cr
   -LR bolus
   # Nutrition: Pt currently has tube feeds via NG tube. Discussed with
   family who states that pt would want all measures of support. Pt
   unlikely to be taking PO [**3-5**] current clinical state. Will consult GI
   for a PEG placement for nutrition, will also obtain Albumin level.
   -Albumin level ordered
   -GI consult for PEG placement
   # Stoma: Pt currently has stoma, given his clinical picture he will
   likely require intubation for several days. ENT consulted yesterday for
   trach placement however were unable to place as another pt needed a
   STAT airway.
   - ENT placed trach size 7.0 yesterday
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-13**] 04:06 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-13 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fem line dc'd yest. No overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-13**] 04:32 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-12**] 11:34 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-13**] 04:32 AM
   Other medications:
   Synthroid, FeSO4, levofloxacin, Peridex,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-13**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 79 (71 - 90) bpm
   BP: 137/62(79) {98/48(60) - 157/65(97)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,812 mL
                                                                    566 mL
   PO:
             TF:
                                                                     98 mL
                                                                    289 mL
   IVF:
                                                                  2,539 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    535 mL
   Urine:
                                                                    910 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,902 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   Ve: 8.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R side)
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   119 K/uL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   3.8 mEq/L
   58 mg/dL
   115 mEq/L
   143 mEq/L
   26.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2164-2-10**]  11:51 PM
                             [**2164-2-11**]  12:29 AM
                             [**2164-2-11**]  04:20 AM
                             [**2164-2-11**]  05:52 AM
                             [**2164-2-11**]  05:00 PM
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
   WBC
   11.5
   10.0
   10.7
   Hct
   31.3
   29.7
   30.0
   28.6
   26.5
   Plt
   150
   128
   119
   Cr
   2.7
   2.9
   3.0
   2.3
   3.0
   TCO2
   16
   19
   20
   Glucose
   93
   111
   72
   58
   99
   Other labs: PT / PTT / INR:14.4/51.6/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:6.6
   mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR- multifocal R pneumonia
   Microbiology: Blood x 4- neg to date
   Influenza DFa- neg
   Sputum- neg to date
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -d/c vancomycin; cont Zosyn + levofloxacin, may need longer course if
   sig necrosis evident
   -cont weaning PEEP; trial PSV --> minimize sedation
 SEPSIS- now resolving
 ACUTE RENAL FAILURE- fluid responsive
   -likely insult initially from distributive/ hypovolemic shock and ATN
   -cont discrete boluses to maintain UOP and monitor
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 MALNUTRITION- nutrition consult
   -PEG consult, cont tube feeds
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-13**] 04:06 AM 25 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed plan of care, prognosis with
   family. Patient clearly stated prior to present illness that he wanted
   to survive at all costs and was willing to live indefinitely on
   mechanical ventialtion with feeding tube, hemodialysis or any other
   modalities required to keep him alive, despite impact on quality of
   life. We will proceed in accordance with his wishes.
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill

2164-02-14 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ABG overnight 7.37/35/72
   - GI contact[**Name (NI) **] about PEG - did not hear back from them
   - pm lytes ok K 3.7, Cr 2.6
   - started SSI for elevated fingersticks likely [**3-5**] to starting tube
   feeds
   - albumin 1.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-14**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-2-14**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-14**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 76 (71 - 87) bpm
   BP: 121/49(66) {121/49(66) - 176/75(107)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,209 mL
                                                                    602 mL
   PO:
             TF:
                                                                    652 mL
                                                                    212 mL
   IVF:
                                                                  1,527 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    280 mL
   Urine:
                                                                  1,435 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    774 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/35/72/17/-3
   Ve: 6.3 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General: Elderly Asian Male intubated via trach.
   Pulmonary: Rt hemithorax course BS, clear over lt hemithorax.
   Cardiac: S1 S2, regular rate, rhythm, no murmurs, gallops or rubs
   auscultated
    Abdomen: Soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: [**3-6**]+ edema noted in upper extermities, 2+ lt radial pulse,
   weak rt radial pulse
   Neurologic: Intubated, spontaneously opens his eyes.
   Labs / Radiology
   130 K/uL
   9.0 g/dL
   95 mg/dL
   2.6 mg/dL
   17 mEq/L
   3.7 mEq/L
   50 mg/dL
   113 mEq/L
   142 mEq/L
   27.9 %
   13.1 K/uL
         [image002.jpg]
                             [**2164-2-11**]  05:52 AM
                             [**2164-2-11**]  05:00 PM
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
   WBC
   10.0
   10.7
   13.1
   Hct
   30.0
   28.6
   26.5
   27.9
   Plt
   128
   119
   130
   Cr
   2.9
   3.0
   2.3
   3.0
   2.6
   2.6
   TCO2
   19
   20
   21
   Glucose
   111
   72
   58
   99
   156
   95
   Other labs: PT / PTT / INR:14.4/51.6/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   #. Sepsis: On admission patient met SIRS criteria with tachycardia,
   temperature of 102, tachypnea and white blood count with bandemia. WBC
   have increased to trended down to 6.6. however he still has impressive
   bandemia. Likely source of SIRS is pneumonia.  Lactate initially noted
   to be 6.1, however following fluid administration is 1.9. Pt was
   started on Levofloxacin, Cefepime, Vancomycin in the ED. Zosyn IV was
   started for broad coverage, Levofloxacin for atypical coverage,
   Vancomycin for MRSA coverage given his h.o. of MRSA. Yesterday he
   became hypotensive and required pressure support again with Levophed as
   well as frequent IVF boluses. Today he has been able to wean off the
   levophed gtt.
   - Continue Zosyn, Levofloxacin, narrow spectrum if cultures turn
   positive
   - will d/c Vancomycin as MRSA screen negative
   - Sputum cx, bld cx pending. Legionella antigen negative, DFA for
   influenza pending.
   - Maintain MAP > 65, if pt requires vasopressor support will started
   levophed with vasopressin, will then attempt to wean off levophed and
   keep vasopressin for a 24 hour period. Will start pt on bolus of LR for
   IVF resuscitation.
   - Continue to trend WBC
   #. Metabolic acidosis: The patient has a non-anion gap acidosis most
   likely related to his vast fluid resuscitation with normal saline.
   Following administration of 1L D5W with 3 amps of HCO3 pt
s CO2
   increased from 16 to 20. Will bolus IVF with LR and check PM lytes to
   monitor for hyperkalemia.
   - Support his BP as below to maintain pefusion to his kidneys.
   - IVF bolus with LR and monitor lytes for hyperkalemia.
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.  As pt has had not decrease in Hct over the past
   few days, will restart Heparin for prophylaxis.
   - Active type and screen
   - Continue to monitor Hct
   # Pneumonia: Culture data thus far negative to date. Pt started on ARDs
   protocol though he is taking in volume greater than 6cc/kg.  Urinary
   legionella negative.
   - Continue Zosyn, Levofloxacin, will d/c Vancomycin as MRSA swab was
   negative
   - Sputum cultures, DFA negative
   - Follow bcx as above
   - Will decrease FiO2 now and see how pt tolerates FiO2 of 40%. Will
   also aim to decrease PEEP from 12 to 8 with the goal of transitioning
   to trach mask with frequent suctioning of secretions.
   - Wean Versed and Fentanyl gtt as tolerated
   # Nutrition: Pt has been without nutrition, will consult nutrition
   regarding TF via NGT.
   - Nutrition consult for TF
   # New onset A-Fib: Pt noted to be in A-fib new onset in the ED which
   resolved once in the ICU.  He has been in sinus rhythm.
   - If A-fib recurs again at rate >100 consider starting digoxin vs
   amiodarone.
   - Monitor on tele
   # Acute Kidney Injury: The patient
s Cr furthered increased to 3.0,
   baseline Creatinine noted to be 1.1-1.2.  Pt
s Creatinine with fluid
   resuscitation with urin output approx 50cc showed a decrease to 2.3,
   however overnight Creatinine increased back up to 3.0. Urine lytes have
   been ordered with a FENA suspicious for pre-renal. Will again
   administer IVF boluses with LR given the pt
s non-anion gap metabolic
   acidosis from NS fluid resuscitation for a goal of UOP >50cc/hr. Given
   low urine output [**Last Name (un) **] most likely [**3-5**] ATN versus pre-renal. Will
   continue to give fluid today and monitor UOP.
   - trend Cr
   -LR bolus
   # Nutrition: Pt currently has tube feeds via NG tube. Discussed with
   family who states that pt would want all measures of support. Pt
   unlikely to be taking PO [**3-5**] current clinical state. Will consult GI
   for a PEG placement for nutrition, will also obtain Albumin level.
   -Albumin level ordered
   -GI consult for PEG placement
   # Stoma: Pt currently has stoma, given his clinical picture he will
   likely require intubation for several days. ENT consulted yesterday for
   trach placement however were unable to place as another pt needed a
   STAT airway.
   - ENT placed trach size 7.0 yesterday
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-14**] 03:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: Heparin SQ 5,000u TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-14 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Inc wbc ct overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-14**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-2-14**] 06:13 AM
   Other medications:
   Synthroid, Fe, levofloxacin, Protonix, Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-14**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 73 (71 - 87) bpm
   BP: 126/58(75) {116/43(62) - 176/75(107)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,209 mL
                                                                    805 mL
   PO:
             TF:
                                                                    652 mL
                                                                    248 mL
   IVF:
                                                                  1,527 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    450 mL
   Urine:
                                                                  1,435 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    774 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/35/72/17/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R, Rhonchorous: R)
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   130 K/uL
   95 mg/dL
   2.6 mg/dL
   17 mEq/L
   3.7 mEq/L
   50 mg/dL
   113 mEq/L
   142 mEq/L
   27.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2164-2-11**]  05:52 AM
                             [**2164-2-11**]  05:00 PM
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
   WBC
   10.0
   10.7
   13.1
   Hct
   30.0
   28.6
   26.5
   27.9
   Plt
   128
   119
   130
   Cr
   2.9
   3.0
   2.3
   3.0
   2.6
   2.6
   TCO2
   19
   20
   21
   Glucose
   111
   72
   58
   99
   156
   95
   Other labs: PT / PTT / INR:14.4/51.6/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:1.8 mg/dL
   Imaging: KUB- LB dilation
   CXR- improved R sided infiltratw
   Microbiology: Cx data- neg to date
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -d/c vancomycin; cont Zosyn + levofloxacin, may need longer course if
   sig necrosis evident
   -cont weaning PEEP --> minimize sedation
   -poss PSV today
 SEPSIS- now resolving
 ACUTE RENAL FAILURE- fluid responsive
   -likely insult initially from distributive/ hypovolemic shock and ATN
   -cont discrete boluses to maintain UOP and monitor
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
   LARGE BOWEL OBSTRUCTION- likely related to constipation but will f/u
   final read of abd film
   -laxatives titrated to BM
 MALNUTRITION- nutrition consult
   -PEG consult, cont tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-02-15 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-15**] 06:04 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-15**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-15**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-15**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 74 (67 - 85) bpm
   BP: 120/52(68) {116/47(65) - 178/96(116)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,939 mL
                                                                    247 mL
   PO:
             TF:
                                                                    863 mL
   IVF:
                                                                    806 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    298 mL
   Urine:
                                                                    885 mL
                                                                    298 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,054 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 430 (410 - 521) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.7 g/dL
   131 mg/dL
   2.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   47 mg/dL
   117 mEq/L
   145 mEq/L
   30.1 %
   15.2 K/uL
        [image002.jpg]
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
   WBC
   10.0
   10.7
   13.1
   15.2
   Hct
   28.6
   26.5
   27.9
   30.1
   Plt
   128
   119
   130
   151
   Cr
   3.0
   2.3
   3.0
   2.6
   2.6
   2.4
   2.4
   TCO2
   19
   20
   21
   Glucose
   72
   58
   99
   156
   95
   107
   131
   Other labs: PT / PTT / INR:14.6/39.1/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   #. Sepsis: On admission patient met SIRS criteria with tachycardia,
   temperature of 102, tachypnea and white blood count with bandemia. WBC
   have increased to trended down to 6.6. however he still has impressive
   bandemia. Likely source of SIRS is pneumonia.  Lactate initially noted
   to be 6.1, however following fluid administration is 1.9. Pt was
   started on Levofloxacin, Cefepime, Vancomycin in the ED. Zosyn IV was
   started for broad coverage, Levofloxacin for atypical coverage,
   Vancomycin for MRSA coverage given his h.o. of MRSA. Yesterday he
   became hypotensive and required pressure support again with Levophed as
   well as frequent IVF boluses. Today he has been able to wean off the
   levophed gtt.
   - Continue Zosyn, Levofloxacin, narrow spectrum if cultures turn
   positive
   - will d/c Vancomycin as MRSA screen negative
   - Sputum cx, bld cx pending. Legionella antigen negative, DFA for
   influenza pending.
   - Maintain MAP > 65, if pt requires vasopressor support will started
   levophed with vasopressin, will then attempt to wean off levophed and
   keep vasopressin for a 24 hour period. Will start pt on bolus of LR for
   IVF resuscitation.
   - Continue to trend WBC
   #. Metabolic acidosis: The patient has a non-anion gap acidosis most
   likely related to his vast fluid resuscitation with normal saline.
   Following administration of 1L D5W with 3 amps of HCO3 pt
s CO2
   increased from 16 to 20. Will bolus IVF with LR and check PM lytes to
   monitor for hyperkalemia.
   - Support his BP as below to maintain pefusion to his kidneys.
   - IVF bolus with LR and monitor lytes for hyperkalemia.
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.  As pt has had not decrease in Hct over the past
   few days, will restart Heparin for prophylaxis.
   - Active type and screen
   - Continue to monitor Hct
   # Pneumonia: Culture data thus far negative to date. Pt started on ARDs
   protocol though he is taking in volume greater than 6cc/kg.  Urinary
   legionella negative.
   - Continue Zosyn, Levofloxacin, will d/c Vancomycin as MRSA swab was
   negative
   - Sputum cultures, DFA negative
   - Follow bcx as above
   - Will decrease FiO2 now and see how pt tolerates FiO2 of 40%. Will
   also aim to decrease PEEP from 12 to 8 with the goal of transitioning
   to trach mask with frequent suctioning of secretions.
   - Wean Versed and Fentanyl gtt as tolerated
   # Nutrition: Pt has been without nutrition, will consult nutrition
   regarding TF via NGT.
   - Nutrition consult for TF
   # New onset A-Fib: Pt noted to be in A-fib new onset in the ED which
   resolved once in the ICU.  He has been in sinus rhythm.
   - If A-fib recurs again at rate >100 consider starting digoxin vs
   amiodarone.
   - Monitor on tele
   # Acute Kidney Injury: The patient
s Cr furthered increased to 3.0,
   baseline Creatinine noted to be 1.1-1.2.  Pt
s Creatinine with fluid
   resuscitation with urin output approx 50cc showed a decrease to 2.3,
   however overnight Creatinine increased back up to 3.0. Urine lytes have
   been ordered with a FENA suspicious for pre-renal. Will again
   administer IVF boluses with LR given the pt
s non-anion gap metabolic
   acidosis from NS fluid resuscitation for a goal of UOP >50cc/hr. Given
   low urine output [**Last Name (un) **] most likely [**3-5**] ATN versus pre-renal. Will
   continue to give fluid today and monitor UOP.
   - trend Cr
   -LR bolus
   # Nutrition: Pt currently has tube feeds via NG tube. Discussed with
   family who states that pt would want all measures of support. Pt
   unlikely to be taking PO [**3-5**] current clinical state. Will consult GI
   for a PEG placement for nutrition, will also obtain Albumin level.
   -Albumin level ordered
   -GI consult for PEG placement
   # Stoma: Pt currently has stoma, given his clinical picture he will
   likely require intubation for several days. ENT consulted yesterday for
   trach placement however were unable to place as another pt needed a
   STAT airway.
   - ENT placed trach size 7.0 yesterday
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-15 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has been on PSV since yest AM. Scheduled for PEG today. +BM yest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-15**] 06:04 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-15**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-15**] 06:05 AM
   Other medications:
   Synthroid, Fe, Levoflox, Peridex, Atrovent, RISS,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-15**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 67 (67 - 85) bpm
   BP: 131/52(71) {120/47(65) - 178/96(116)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,939 mL
                                                                    331 mL
   PO:
             TF:
                                                                    863 mL
   IVF:
                                                                    806 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    428 mL
   Urine:
                                                                    885 mL
                                                                    428 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,054 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 555 (410 - 555) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   151 K/uL
   131 mg/dL
   2.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   47 mg/dL
   117 mEq/L
   145 mEq/L
   30.1 %
   15.2 K/uL
        [image002.jpg]
                             [**2164-2-11**]  05:55 PM
                             [**2164-2-12**]  01:28 AM
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
   WBC
   10.0
   10.7
   13.1
   15.2
   Hct
   28.6
   26.5
   27.9
   30.1
   Plt
   128
   119
   130
   151
   Cr
   3.0
   2.3
   3.0
   2.6
   2.6
   2.4
   2.4
   TCO2
   19
   20
   21
   Glucose
   72
   58
   99
   156
   95
   107
   131
   Other labs: PT / PTT / INR:14.6/39.1/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR- R-sided multifocal pna unchanged
   Microbiology: Sputum- neg
   Blood, Urine- neg to date
   Assessment and Plan
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -cont Zosyn + levofloxacin, may need longer course if sig necrosis
   evident
   -incr WBC since vancomycin dc'd; cont to monitor and if spikes or incr
   O2 req't, secretion production would resume
   -cont weaning PEEP
   -poss PSV today
   -minimize sedation; change to bolus haldol for agitation and taper
   fentanyl
   SEPSIS- now resolving, se above
   ACUTE RENAL FAILURE- fluid responsive
   -likely insult initially from distributive/ hypovolemic shock and ATN
   -cont discrete boluses to maintain UOP and monitor
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
   LARGE BOWEL OBSTRUCTION- resolved after BM yest.
   MALNUTRITION- nutrition consult, PEG today
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2164-02-16 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2164-2-15**] 01:54 PM
   end 1450
   - PEG tube placed yesterday
   - Pt became hypertensive to the 200s, required 12.5mg PO Metoprolol
   Tartrate and 10mg PO Hydralazine returned to normotensive state
   -Propofol gtt d/c
   - Transitioned PEEP 10->8, VBg repeat showed no significant change in
   pCO2 or pH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-16**] 05:24 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-2-15**] 01:45 PM
   Fentanyl - [**2164-2-15**] 02:00 PM
   Midazolam (Versed) - [**2164-2-15**] 02:02 PM
   Pantoprazole (Protonix) - [**2164-2-15**] 11:44 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-16**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-16**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 62 (58 - 112) bpm
   BP: 128/55(73) {114/48(64) - 225/110(133)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                    812 mL
                                                                    259 mL
   PO:
             TF:
   IVF:
                                                                    662 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                    932 mL
                                                                    350 mL
   Urine:
                                                                    932 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -120 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 469 (469 - 555) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 142
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: ///20/
   Ve: 7.7 L/min
   Physical Examination
   General: Elderly Asian Male intubated via trach in NARD.
   Pulmonary: Rt hemi thorax  BS are  course but improved from yesterday
   examination.
   Cardiac: S1 S2, regular rate, no adventitous sounds
   Abdomen: Soft, slightly distended improved from yesterday,, normoactive
   bowel sounds, no facial grimacing noted upon palpation
   Extremities: 3+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with his son. Pt able to flex his toes on command
   Labs / Radiology
   138 K/uL
   9.3 g/dL
   110 mg/dL
   2.3 mg/dL
   20 mEq/L
   3.6 mEq/L
   41 mg/dL
   116 mEq/L
   146 mEq/L
   27.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
   WBC
   10.0
   10.7
   13.1
   15.2
   13.6
   Hct
   28.6
   26.5
   27.9
   30.1
   27.8
   Plt
   128
   119
   130
   151
   138
   Cr
   3.0
   2.3
   3.0
   2.6
   2.6
   2.4
   2.4
   2.2
   2.3
   TCO2
   21
   Glucose
   72
   58
   99
   156
   95
   107
   131
   126
   110
   Other labs: PT / PTT / INR:14.6/39.1/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   # Pneumonia: Culture data thus far still negative to date. Pt
   saturating >90% on PS 15/10, his pulmonary examination and
   radiographical data show a severe pneumonia that is showing
   improvement.  A change in PEEP was delayed yesterday as pt was
   undergoing PEG tube placement. He is currently on Levofloxacin and
   Zosyn for coverage. Interestingly, pt
s leukocytosis increased
   intermittently but now is starting to trend back down. He clinically
   though does appear to be better. If pt does appear to decompensate or
   starts to desaturate, has worsening clinical exam or clinical data will
   have low threshold to restart Vancomycin.
   - Continue Zosyn, Levofloxacin for a total of 10 days
   - Sputum cultures, blood cultures thus far negative pending finals, DFA
   negative
   - Follow bcx as above
   - Pt successfully weaned to a PEEP of 8, will attempt to gently wean to
   PEEP of 5 this PM if pt is comfortable. Pt is close to rehab placement,
   will screen for rehab today..
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.
   - Continue to monitor Hct
   # Sedation: Goal is to wean pt off Fentanyl so pt is awake enough to
   ultimately transition to trach mask and possible rehab. Pt required a
   fentanyl bolus this AM but is very much interactive today.
   - Will transition from Fentanyl drip to patch
   # Nutrition: Pt has PEG placed yesterday, currently TF are off.
   Nutrtition are following pt currently, his albumin is low 1.9.
   -          PEG received yesterday will restart feeds today as pt is 24
   hour post PEG placement
   # Hypernatremia: Pt noted to be slightly hypernatremic today 146, has
   slowly increased over the past few days and is most likely related to
   his poor intake. Pt
s free water deficit is 1.7L will add free H20
   bolus to tube feeds. Will continue to monitor.
   # Acute Kidney Injury: The patient
s Cr currently 2.4, cause is
   pre-renal. Will not fluid bolus at this time as his urine output is
   increasing, pt is euvolemic now and preference for volume status would
   be slightly dry given goal of wean to trach mask.
   -          trend Cr
   # Scrotal Edema: Pt noted have severe scrotal edema, no skin breakdown
   noted. Will elevate scrotum with sling, edematous state likely [**3-5**]
   decreased oncotic pressures [**3-5**] poor nutritional status. With tube
   feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: Heparin 5,000u SC TID
   Stress ulcer:  Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition: Screen for rehab today

2164-02-16 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEG placed yest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-16**] 05:24 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-2-15**] 01:45 PM
   Fentanyl - [**2164-2-15**] 02:00 PM
   Midazolam (Versed) - [**2164-2-15**] 02:02 PM
   Pantoprazole (Protonix) - [**2164-2-15**] 11:44 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-16**] 05:23 AM
   Other medications:
   Fe tid, levofloxacin, pantoprazole, Peridex, Hep sc tid, Combivent,
   RISS, Senna, Colace, Lopressor, synthroid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-16**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 80 (58 - 112) bpm
   BP: 161/71(102) {114/51(64) - 225/110(133)} mmHg
   RR: 23 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    812 mL
                                                                    356 mL
   PO:
             TF:
   IVF:
                                                                    662 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                    932 mL
                                                                    480 mL
   Urine:
                                                                    932 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -120 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 515 (469 - 515) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 142
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: ///20/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, BUE edema, scrotal edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   138 K/uL
   110 mg/dL
   2.3 mg/dL
   20 mEq/L
   3.6 mEq/L
   41 mg/dL
   116 mEq/L
   146 mEq/L
   27.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2164-2-12**]  04:29 AM
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
   WBC
   10.0
   10.7
   13.1
   15.2
   13.6
   Hct
   28.6
   26.5
   27.9
   30.1
   27.8
   Plt
   128
   119
   130
   151
   138
   Cr
   3.0
   2.3
   3.0
   2.6
   2.6
   2.4
   2.4
   2.2
   2.3
   TCO2
   21
   Glucose
   72
   58
   99
   156
   95
   107
   131
   126
   110
   Other labs: PT / PTT / INR:15.0/58.0/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR- unchanged
   Microbiology: All cx to date- neg
   ECG: Tele- neg
   Assessment and Plan
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)- resolving slowly with
   evidence of necrosis on CXR
   -cont Zosyn + levofloxacin x total 10d
   -cont weaning PEEP
   -cont PSV
   -minimize sedation; change to bolus haldol for agitation and taper
   fentanyl --> add fentanyl patch to aid weaning
   SEPSIS- now resolving, see above
   ACUTE RENAL FAILURE- fluid responsive, resolving and back to level of
   chronic kidney disease
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
   MALNUTRITION- start tube feeds today w/ free h20 flushes, ok to give
   ice chips as epiglottis is sown over
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2164-02-17 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-17**] 12:05 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-2-16**] 12:14 PM
   Fentanyl - [**2164-2-16**] 03:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-17**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 75 (58 - 101) bpm
   BP: 167/70(94) {149/60(86) - 204/95(119)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    734 mL
                                                                    245 mL
   PO:
             TF:
   IVF:
                                                                    574 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    400 mL
   Urine:
                                                                  1,160 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -426 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (256 - 599) mL
   PS : 15 cmH2O
   RR (Spontaneous): 40
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: ///20/
   Ve: 5 L/min
   Physical Examination
   General: Elderly Asian Male intubated via trach in NARD.
   Pulmonary: Rt hemi thorax  BS are  course but improved from yesterday
   examination.
   Cardiac: S1 S2, regular rate, no adventitous sounds
   Abdomen: Soft, slightly distended improved from yesterday,, normoactive
   bowel sounds, no facial grimacing noted upon palpation
   Extremities: 3+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with his son. Pt able to flex his toes on command
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   109 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.3 mEq/L
   38 mg/dL
   116 mEq/L
   148 mEq/L
   30.2 %
   15.7 K/uL
         [image002.jpg]
                             [**2164-2-12**]  05:00 PM
                             [**2164-2-13**]  03:12 AM
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
   WBC
   10.7
   13.1
   15.2
   13.6
   15.7
   Hct
   26.5
   27.9
   30.1
   27.8
   30.2
   Plt
   119
   130
   151
   138
   166
   Cr
   2.3
   3.0
   2.6
   2.6
   2.4
   2.4
   2.2
   2.3
   2.0
   TCO2
   21
   Glucose
   58
   99
   156
   95
   107
   131
   126
   110
   109
   Other labs: PT / PTT / INR:15.0/32.0/1.3, CK / CKMB /
   Troponin-T:450/4/<0.01, Differential-Neuts:48.0 %, Band:44.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   # Pneumonia: Culture data thus far still negative to date. Pt
   saturating >90% on PS 15/10, his pulmonary examination and
   radiographical data show a severe pneumonia that is showing
   improvement.  A change in PEEP was delayed yesterday as pt was
   undergoing PEG tube placement. He is currently on Levofloxacin and
   Zosyn for coverage. Interestingly, pt
s leukocytosis increased
   intermittently but now is starting to trend back down. He clinically
   though does appear to be better. If pt does appear to decompensate or
   starts to desaturate, has worsening clinical exam or clinical data will
   have low threshold to restart Vancomycin.
   - Continue Zosyn, Levofloxacin for a total of 10 days
   - Sputum cultures, blood cultures thus far negative pending finals, DFA
   negative
   - Follow bcx as above
   - Pt successfully weaned to a PEEP of 8, will attempt to gently wean to
   PEEP of 5 this PM if pt is comfortable. Pt is close to rehab placement,
   will screen for rehab today..
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.
   - Continue to monitor Hct
   # Sedation: Goal is to wean pt off Fentanyl so pt is awake enough to
   ultimately transition to trach mask and possible rehab. Pt required a
   fentanyl bolus this AM but is very much interactive today.
   - Will transition from Fentanyl drip to patch
   # Nutrition: Pt has PEG placed yesterday, currently TF are off.
   Nutrtition are following pt currently, his albumin is low 1.9.
   -          PEG received yesterday will restart feeds today as pt is 24
   hour post PEG placement
   # Hypernatremia: Pt noted to be slightly hypernatremic today 146, has
   slowly increased over the past few days and is most likely related to
   his poor intake. Pt
s free water deficit is 1.7L will add free H20
   bolus to tube feeds. Will continue to monitor.
   # Acute Kidney Injury: The patient
s Cr currently 2.4, cause is
   pre-renal. Will not fluid bolus at this time as his urine output is
   increasing, pt is euvolemic now and preference for volume status would
   be slightly dry given goal of wean to trach mask.
   -          trend Cr
   # Scrotal Edema: Pt noted have severe scrotal edema, no skin breakdown
   noted. Will elevate scrotum with sling, edematous state likely [**3-5**]
   decreased oncotic pressures [**3-5**] poor nutritional status. With tube
   feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2164-2-9**] 02:57 PM
   Prophylaxis:
   DVT:  Heparin S.C 5,000u TID
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: Awaiting Placement

2164-02-18 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LUE showed complete occlusive thrombus surrounding the left PICC line
   in the left brachial and axillary veins. Occlusive thrombus also noted
   within a second left brachial vein.
   - Unable to place SCL, placed Rt femoral line, PICC d/c'd
   - Noted to have RLQ in the AM, CT scan showed large rectus hematoma 12
   cm craniocaudal x 6.5 cm transverse x 2.8 cm anterior- posterior. New
   lesions within the liver suspicious for metastasis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-17**] 12:32 PM
   Piperacillin - [**2164-2-18**] 06:00 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-18**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 68 (67 - 94) bpm
   BP: 147/59(80) {133/56(74) - 196/98(120)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,880 mL
                                                                    956 mL
   PO:
             TF:
                                                                     30 mL
                                                                    103 mL
   IVF:
                                                                    560 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    320 mL
   Urine:
                                                                  1,365 mL
                                                                    305 mL
   NG:
   15 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    315 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (457 - 698) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 7 L/min
   Physical Examination
   General: Elderly Asian Male intubated via trach in NARD.
   Pulmonary: Rt hemi thorax  BS are  course but improved from yesterday
   examination.
   Cardiac: S1 S2, regular rate, no adventitous sounds
   Abdomen: Soft, slightly distended improved from yesterday,, normoactive
   bowel sounds, no facial grimacing noted upon palpation
   Extremities: 3+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with his son. Pt able to flex his toes on command
   Labs / Radiology
   152 K/uL
   8.9 g/dL
   106 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   32 mg/dL
   115 mEq/L
   147 mEq/L
   27.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2164-2-13**]  06:48 PM
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
   WBC
   13.1
   15.2
   13.6
   15.7
   16.4
   12.7
   Hct
   27.9
   30.1
   27.8
   30.2
   29.3
   27.7
   Plt
   130
   151
   138
   166
   152
   152
   Cr
   2.6
   2.6
   2.4
   2.4
   2.2
   2.3
   2.0
   1.8
   1.8
   TCO2
   21
   Glucose
   156
   95
   107
   131
   126
   110
   109
   123
   106
   Other labs: PT / PTT / INR:13.8/37.6/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   [1][**2164-2-17**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [2][**2164-2-12**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [3][**2164-2-12**]
   Influenza A/B by DFA
   DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT INFLUENZA B ANTIGEN
   TEST-FINAL
   INPATIENT
   [4][**2164-2-10**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [5][**2164-2-10**]
   MRSA SCREEN
   MRSA SCREEN-FINAL
   INPATIENT
   [6][**2164-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [7][**2164-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone presenting to the ED with 2day history
   of fevers, chills, fatigue, poor PO intake and non-productive cough now
   septic and intubated.
   # Pneumonia: Culture data thus far still negative to date. Pt
   saturating >90% on PS 15/10, his pulmonary examination and
   radiographical data show a severe pneumonia that is showing
   improvement.  A change in PEEP was delayed yesterday as pt was
   undergoing PEG tube placement. He is currently on Levofloxacin and
   Zosyn for coverage. Interestingly, pt
s leukocytosis increased
   intermittently but now is starting to trend back down. He clinically
   though does appear to be better. If pt does appear to decompensate or
   starts to desaturate, has worsening clinical exam or clinical data will
   have low threshold to restart Vancomycin.
   - Continue Zosyn, Levofloxacin for a total of 10 days
   - Sputum cultures, blood cultures thus far negative pending finals, DFA
   negative
   - Follow bcx as above
   - Pt successfully weaned to a PEEP of 8, will attempt to gently wean to
   PEEP of 5 this PM if pt is comfortable. Pt is close to rehab placement,
   will screen for rehab today..
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. On admission Hct 24 likely artificially elevated [**3-5**]
   hypovolemia/hemoconcentration. Pt received 2units PRBC following a
   morning Hct of 15. Currently his Hct has been stable now at 30, will
   continue to monitor.
   - Continue to monitor Hct
   # Sedation: Goal is to wean pt off Fentanyl so pt is awake enough to
   ultimately transition to trach mask and possible rehab. Pt required a
   fentanyl bolus this AM but is very much interactive today.
   - Will transition from Fentanyl drip to patch
   # Nutrition: Pt has PEG placed yesterday, currently TF are off.
   Nutrtition are following pt currently, his albumin is low 1.9.
   -          PEG received yesterday will restart feeds today as pt is 24
   hour post PEG placement
   # Hypernatremia: Pt noted to be slightly hypernatremic today 146, has
   slowly increased over the past few days and is most likely related to
   his poor intake. Pt
s free water deficit is 1.7L will add free H20
   bolus to tube feeds. Will continue to monitor.
   # Acute Kidney Injury: The patient
s Cr currently 2.4, cause is
   pre-renal. Will not fluid bolus at this time as his urine output is
   increasing, pt is euvolemic now and preference for volume status would
   be slightly dry given goal of wean to trach mask.
   -          trend Cr
   # Scrotal Edema: Pt noted have severe scrotal edema, no skin breakdown
   noted. Will elevate scrotum with sling, edematous state likely [**3-5**]
   decreased oncotic pressures [**3-5**] poor nutritional status. With tube
   feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-17**] 10:00 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);

2164-02-19 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Given new liver lesions on the abd CT from yesterday, a family
   meeting will be held on [**2-19**] at 11am to discuss code status and goals
   of care.  An interpreter will be present.
   - The fentanyl gtt was weaned down from 35 mg/hr to 25, however the
   patient became agitated and required a few boluses of fentanyl.
   - C.diff was sent and is pending.
   - His PEEP was weaned down to 5, but he became agitated and it was
   placed back at 8.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-17**] 12:32 PM
   Piperacillin - [**2164-2-18**] 06:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-19**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 67 (62 - 98) bpm
   BP: 144/56(77) {140/56(77) - 212/106(116)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,009 mL
                                                                    819 mL
   PO:
             TF:
                                                                    440 mL
                                                                    236 mL
   IVF:
                                                                    708 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                  1,100 mL
   Urine:
                                                                  1,225 mL
                                                                    500 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                  1,769 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (461 - 612) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 162
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 10.4 L/min
   Physical Examination
   General: Elderly Male intubated via trach in NAD.
   Pulmonary: Slightly coarse breath sounds anteriorly
   Cardiac: RRR, no MRG
   Abdomen: +BS, slightly distended, tenderness to palpation in the LLQ.
   Extremities: 3+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with hand movements. Pt able to move all extremities to visual command.
   Labs / Radiology
   140 K/uL
   8.4 g/dL
   115 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.3 mEq/L
   27 mg/dL
   110 mEq/L
   142 mEq/L
   25.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2164-2-13**]  10:01 PM
                             [**2164-2-14**]  05:30 AM
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
   WBC
   13.1
   15.2
   13.6
   15.7
   16.4
   12.7
   12.5
   Hct
   27.9
   30.1
   27.8
   30.2
   29.3
   27.7
   25.3
   Plt
   130
   151
   138
   166
   152
   152
   140
   Cr
   2.6
   2.4
   2.4
   2.2
   2.3
   2.0
   1.8
   1.8
   1.6
   TCO2
   21
   Glucose
   95
   107
   131
   126
   110
   109
   123
   106
   115
   Other labs: PT / PTT / INR:13.9/36.6/1.2, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone here with resolved sepsis s/p PEG
   placement continuing to require ventilatory support..
   # Pneumonia: Culture data thus far still negative to date. Pt
   saturating >90% on PS [**1-8**], his pulmonary examination and
   radiographical data show a severe pneumonia that is improving.  His
   PEEP was weaned down yesterday to 8 (from 10). He is currently on
   Levofloxacin and Zosyn for coverage. Interestingly, pt
s leukocytosis
   increased intermittently but now is starting to trend back down. He
   clinically though does appear to be better. Sputum cultures, blood
   cultures all have been negative, DFA negative.
   - Continue Zosyn, Levofloxacin for a total of 10 days (today is his
   last day for antibiotic treatment).
   - Pt successfully weaned to a PEEP of 8 yesterday, unable to wean to 5
   secondary to agitation. Pt is close to rehab placement, continue
   screening process
   - will send another sputum as sputum is slightly blood tinged this
   morning
   # Upper extremity thrombus: Patient was found to have occlusive
   thrombus around his PICC yesterday and is no s/p PICC removal.
   Anticoagulation was not started given his recent rectus hematoma and
   bleeding around his central line site.
   - Will continue to hold off starting anticoagulation given his bleeding
   risk and recent hematoma.
   # Rectus sheath hematoma: Patient likely developed secondary to SQH
   shots.  SQH has been dc
ed.  Hct has been stable.
   - Will follow daily Hct.
   - Use pneumoboots for ppx
   # New liver masses seen on CT:  The patient has a history of 3
   malignancies and has widespread bony metastatic disease from prostate
   cancer now with new masses seen on CT likely representing metastases.
   - family meeting held this morning and advised that CPR would not be
   medically indicated which family understood, they would, however, want
   him to be shocked if he were to code
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. Hct is 25.5 (29-
27 yesterday).
   - check pm hct, transfuse if <21
   # Sedation: Goal is to wean pt off Fentanyl so pt is awake enough to
   ultimately transition to trach mask and possible rehab. Pt was weaned
   down to 35 mg/hr yesterday and started on a fentanyl patch.
   - Will continue the fentanyl patch and try to turn off the gtt today
   - patient also with significant anasarca which may be inihibiting
   weaning him
 will give lasix 20mg iv x1 with goal UOP (-)1-1.5L
   # Hypernatremia: Pt noted to be slightly hypernatremic yesterday at
   147, now normalized to 142 with increase of free water boluses
   yesterday
   - daily lytes
   # Acute Kidney Injury: Cr now decreasing to 1.6 (from 2.0).  UOP 30-50
   cc/h.
   - Continue to trend Cr.
   # Scrotal Edema: Pt noted have severe scrotal edema, no skin breakdown
   noted. Will elevate scrotum with sling, edematous state likely [**3-5**]
   decreased oncotic pressures [**3-5**] poor nutritional status. With tube
   feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-19**] 12:50 AM 35 mL/hour
   Glycemic Control:  SSi
   Lines:
   Multi Lumen - [**2164-2-17**] 08:00 PM
   Prophylaxis:
   DVT: none given hematoma
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR
 shock is ok but no compressions
   Disposition: ICu
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname **] has not had signs of overt bleeding but heparin has been
   withheld given concerns of rectus sheath hematoma and recent UGI
   oozing. He has completed a course of IV antibiotics for nosocmial PNA.
   He remains on CPAP and PSV support today with FiO2 near 50%. He
   continues to manifest anasarca and tenderness in RLQ.
   Exam notable for Tm of 98.2 BP of 144/56 HR of 65 RR of 18 with sat on
   PSV/CPAP [**11-8**] cms.
   Agree with plan to attempt diuresis today and recheck sputum GS, C&S.
   he is at high risk for bleeding and anticoagulation will be withheld
   until PICC/ Midline placed in RUE.
   I have had a long discussion today ( nearly 30 minutes) with the aid of
   translator with his son to discuss ongoing medical issues and recent
   CT/ USG findings. I have told him that we will continue full supportive
   care short of CPR in the event of a septic hemodynamic decline, as that
   would be futile therapy. The orders will reflect that ( i.e CPR not
   indicated).
   I am hopeful that we will be able to transition off PEEP and current
   CPAP settings with diuresis if he does not have another infectious
   complication. He remains frail with progressive metastatic disease and
   family is aware of this too
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2164-2-19**] 12:57 PM ------

2164-02-20 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting held to discuss code status in light of likely mets
   seen on CT scan yesterday - advised that compressions would not be
   indicated if patient coded.  Family understands and agrees, however
   would like him to be shocked if he does code.
   - repeat hct 23 (29-->27-->27-->25-->23) got 1 unit pRBC overnight,
   this morning hct 29
   - got lasix 20mg iv last night and again this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-17**] 12:32 PM
   Piperacillin - [**2164-2-18**] 06:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-20**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 67 (60 - 80) bpm
   BP: 153/58(82) {116/44(61) - 167/98(114)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  3,707 mL
                                                                    829 mL
   PO:
           TF:
                                                                    842 mL
                                                                    228 mL
   IVF:
                                                                    450 mL
                                                                     81 mL
   Blood products:
                                                                    355 mL
                                                                     20 mL
   Total out:
                                                                  3,110 mL
                                                                    540 mL
   Urine:
                                                                  2,510 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    289 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 399 (351 - 563) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 7.1 L/min
   Physical Examination
   General: Elderly Male intubated via trach in NAD.
   Pulmonary: Slightly coarse breath sounds anteriorly
   Cardiac: RRR, no MRG
   Abdomen: +BS, slightly distended, tenderness to palpation in the LLQ.
   Extremities: 3+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with hand movements. Pt able to move all extremities to visual command.
   Labs / Radiology
   174 K/uL
   9.8 g/dL
   111 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   23 mg/dL
   107 mEq/L
   139 mEq/L
   29.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2164-2-14**]  04:27 PM
                             [**2164-2-15**]  04:25 AM
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
   WBC
   15.2
   13.6
   15.7
   16.4
   12.7
   12.5
   12.3
   Hct
   30.1
   27.8
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   Plt
   151
   138
   166
   152
   152
   140
   174
   Cr
   2.4
   2.4
   2.2
   2.3
   2.0
   1.8
   1.8
   1.6
   1.7
   Glucose
   107
   131
   126
   110
   109
   123
   106
   115
   111
   Other labs: PT / PTT / INR:13.2/31.6/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), PROSTATE
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone here with resolved sepsis s/p PEG
   placement continuing to require ventilatory support..
   # Pneumonia: Culture data thus far still negative to date. Pt
   saturating >90% on PS [**1-8**], his pulmonary examination and
   radiographical data show a severe pneumonia that is improving.  His
   PEEP was weaned down yesterday to 8 (from 10). He is currently on
   Levofloxacin and Zosyn for coverage. Interestingly, pt
s leukocytosis
   increased intermittently but now is starting to trend back down. He
   clinically though does appear to be better. Sputum cultures, blood
   cultures all have been negative, DFA negative.
   - Continue Zosyn, Levofloxacin for a total of 10 days (today is his
   last day for antibiotic treatment).
   - Pt successfully weaned to a PEEP of 8 yesterday, unable to wean to 5
   secondary to agitation. Pt is close to rehab placement, continue
   screening process
   - will send another sputum as sputum is slightly blood tinged this
   morning
    # Upper extremity thrombus: Patient was found to have occlusive
   thrombus around his PICC yesterday and is no s/p PICC removal.
   Anticoagulation was not started given his recent rectus hematoma and
   bleeding around his central line site.
   - Will continue to hold off starting anticoagulation given his bleeding
   risk and recent hematoma.
   # Rectus sheath hematoma: Patient likely developed secondary to SQH
   shots.  SQH has been dc
ed.  Hct has been stable.
   - Will follow daily Hct.
   - Use pneumoboots for ppx
   # New liver masses seen on CT:  The patient has a history of 3
   malignancies and has widespread bony metastatic disease from prostate
   cancer now with new masses seen on CT likely representing metastases.
   - family meeting held this morning and advised that CPR would not be
   medically indicated which family understood, they would, however, want
   him to be shocked if he were to code
   # Anemia: Pt has a history of Anemia prior Hcts late last year show
   approx 23. Hct is 25.5 (29-
27 yesterday).
   - check pm hct, transfuse if <21
   # Sedation: Goal is to wean pt off Fentanyl so pt is awake enough to
   ultimately transition to trach mask and possible rehab. Pt was weaned
   down to 35 mg/hr yesterday and started on a fentanyl patch.
   - Will continue the fentanyl patch and try to turn off the gtt today
   - patient also with significant anasarca which may be inihibiting
   weaning him
 will give lasix 20mg iv x1 with goal UOP (-)1-1.5L
   # Hypernatremia: Pt noted to be slightly hypernatremic yesterday at
   147, now normalized to 142 with increase of free water boluses
   yesterday
   - daily lytes
   # Acute Kidney Injury: Cr now decreasing to 1.6 (from 2.0).  UOP 30-50
   cc/h.
   - Continue to trend Cr.
   # Scrotal Edema: Pt noted have severe scrotal edema, no skin breakdown
   noted. Will elevate scrotum with sling, edematous state likely [**3-5**]
   decreased oncotic pressures [**3-5**] poor nutritional status. With tube
   feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-20**] 05:12 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-21 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Screened for rehab, [**Hospital1 2428**] has accepted pending financial
   comfirmation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2164-2-18**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2164-2-20**] 09:14 PM
   Haloperidol (Haldol) - [**2164-2-21**] 03:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-21**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 83 (62 - 93) bpm
   BP: 132/53(72) {123/49(69) - 182/82(105)} mmHg
   RR: 13 (13 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,144 mL
                                                                    885 mL
   PO:
             TF:
                                                                  1,099 mL
                                                                    338 mL
   IVF:
                                                                    445 mL
                                                                     67 mL
   Blood products:
                                                                     20 mL
   Total out:
                                                                  3,130 mL
                                                                  1,120 mL
   Urine:
                                                                  3,130 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                   -235 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 504 (457 - 587) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 10.4 L/min
   Physical Examination
   General: Elderly Male intubated via trach in NAD.
   HEENT: OP clear
   Pulmonary: Slightly coarse breath sounds anteriorly
   Cardiac: RRR, no MRG
   Abdomen: +BS, slightly distended, nontender, PEG in place.
   Extremities: 1+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with hand movements. Pt able to move all extremities to visual command.
   Labs / Radiology
   250 K/uL
   9.3 g/dL
   94 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   21 mg/dL
   101 mEq/L
   135 mEq/L
   27.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
   WBC
   13.6
   15.7
   16.4
   12.7
   12.5
   12.3
   11.7
   Hct
   27.8
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   Plt
   138
   166
   152
   152
   140
   174
   250
   Cr
   2.2
   2.3
   2.0
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   Glucose
   126
   110
   109
   123
   106
   115
   111
   125
   94
   Other labs: PT / PTT / INR:12.8/32.3/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:6.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   [1][**2164-2-21**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2164-2-19**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [3][**2164-2-18**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [4][**2164-2-17**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone here with resolved sepsis s/p PEG
   placement continuing to require ventilatory support..
   # Pneumonia: Culture data has been negative to date. He has completed a
   10day course of Levofloxacin and Zosyn. Pt
s clinical examination is
   improving. CPAP 15/8, pt still has pleural effusions. To improve
   pleural effusions will keep pt slightly dry, aiming for a 24hour I/O
   goal of -500cc to -1l. Pt
s leukocytosis is currently improving will
   continue to trend.  Last sputum cx was no growth.
   - Patient was only 200 cc negative yesterday.  Continue to diureses
   with I/O 24hr goal of -500 to -1 L with prn IV lasix.  Can also further
   decrease the free water flushes as his Na has been stable (had been
   previously increased due to hypernateremia).
    # Upper extremity thrombus: Patient was found to have occlusive
   thrombus around his PICC and is s/p PICC removal.  Anticoagulation was
   not started given his recent rectus hematoma and bleeding around his
   central line site.
   - Request is in for Rt midline placement
   - Will d/c central line once midline is placed
   # Anemia: Pt
s Hct decreased two days ago to 23 with an increase to 29
   following 1 unit of transfusion. Pt shows no increase in stool output
   so it is highly unlikely given the Hct drop that the pt has a GI bld
   that explains it. Given his current BPS a retroperitoneal bleed is also
   unlikely. Given the large increase in Hct, yesterday
s Hct may be a
   combination of lab error and dilution as pt is still volume
   overloaded.  Hct last night and today are stable at 26.5
 27.3)
   - Hct continues to drop will likely need abdominal imaging to check for
   RP bleed.
   - Will hold off on anticoagulation with Heparin SQ and use pneumoboots
   for ppx.
   - Trend daily Hct.
   # New liver masses seen on CT:  The patient has a history of 3
   malignancies and has widespread bony metastatic disease from prostate
   cancer now with new masses seen on CT likely representing metastases.
   - family meeting recently held and during which the family were advised
   that CPR would not be medically indicated which family understood, they
   would, however, want him to be shocked if he were to code
   # Sedation: Pt is currently weaned off  the Fentanyl gtt and on
   Fentanyl patch which has been on for several days. If pt becomes
   agitated will try Haldol PRN, if agitation still occurs will give
   Fentayl boluses only.
   - Continue Fentanyl patch
   - consider Haldol PRN if pt becomes agitated
   # Acute Kidney Injury: Cr now decreasing and at 1.5 (from an admission
   of 3.0).  Pt
s UOP responded to Furosemide dose, will continue to
   trend. Pt
s kidney fucntion improving as he is recovering from ATN
   versus pre-renal state.
   - Continue to trend Cr.
   # Scrotal Edema: Pt noted have severe scrotal edema, no skin breakdown
   noted. Will elevate scrotum with sling, edematous state likely [**3-5**]
   decreased oncotic pressures [**3-5**] poor nutritional status. With tube
   feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-21**] 01:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-17**] 08:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, but shock wished by the family.
   Disposition: can go to rehab once a bed is available
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2164-02-21 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events. Diruesed yest with little effect. Poor sleep o/[**Name Initial (MD) **] [**Name8 (MD) 77**] RN
   staff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2164-2-18**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2164-2-20**] 09:14 PM
   Haloperidol (Haldol) - [**2164-2-21**] 03:58 AM
   Other medications:
   Synthroid, Peridex, Atrovent, RISS, Metoprolol, Fentanyl patch,
   Prevacid, Amlodipine, FeSO4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-21**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 84 (62 - 93) bpm
   BP: 129/54(81) {123/49(69) - 176/82(105)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,144 mL
                                                                  1,113 mL
   PO:
             TF:
                                                                  1,099 mL
                                                                    492 mL
   IVF:
                                                                    445 mL
                                                                    101 mL
   Blood products:
                                                                     20 mL
   Total out:
                                                                  3,130 mL
                                                                  1,400 mL
   Urine:
                                                                  3,130 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (457 - 587) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: R > L)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RLQ
   overlying hematoma
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   250 K/uL
   94 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   21 mg/dL
   101 mEq/L
   135 mEq/L
   27.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2164-2-15**]  04:32 PM
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
   WBC
   13.6
   15.7
   16.4
   12.7
   12.5
   12.3
   11.7
   Hct
   27.8
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   Plt
   138
   166
   152
   152
   140
   174
   250
   Cr
   2.2
   2.3
   2.0
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   Glucose
   126
   110
   109
   123
   106
   115
   111
   125
   94
   Other labs: PT / PTT / INR:12.8/32.3/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:6.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Microbiology: C. diff neg x2
   Sputum- neg to date
   Assessment and Plan
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)- resolving slowly with
   evidence of necrosis on CXR
   -cont Zosyn + levofloxacin x total 10d
   -cont PSV
   -minimize sedation; change to bolus haldol for agitation and taper
   fentanyl --> add fentanyl patch to aid weaning
   -gentle diuresis as tolerated --> goal even to slightly neg
   RECTUS SHEATH HEMATOMA- supp mgmt
   LUE DVT- catheter-associated, now w/ LUE PICC d/c'd
   -R midline to be placed today, will dc femoral line
   LIVER METS- s/p family mtg yest
   ACUTE RENAL FAILURE- resolved, back to baseline
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
   MALNUTRITION- cont tube feeds w/ free h20 flushes, ok to give ice chips
   as epiglottis is sown over
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-21**] 01:02 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2164-2-17**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held  Comments: made DNR after fam mtg on
   [**2-20**] where CT a/p results showing liver mets was discussed.
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2164-02-22 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - He had a midline placed in his right arm and his femoral line was
   removed.
   - Patient had a bed at [**Hospital1 2428**], but his family wants him at [**Hospital1 2570**] so
   case managment will continue to try to place him.
   - He was decreased to PS of [**1-8**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-22**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 80 (66 - 84) bpm
   BP: 151/71(87) {116/51(67) - 166/75(96)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 56.8 kg
   Height: 62 Inch
             Total In:
                                                                  2,429 mL
                                                                    690 mL
   PO:
             TF:
                                                                  1,127 mL
                                                                    319 mL
   IVF:
                                                                    193 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                    800 mL
   Urine:
                                                                  2,290 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    139 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 686) mL
   PS : 12 cmH2O
   RR (Spontaneous): 39
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 11.4 L/min
   Physical Examination
   General: Elderly Male intubated via trach in NAD.
   HEENT: OP clear
   Pulmonary: Slightly coarse breath sounds anteriorly
   Cardiac: RRR, no MRG
   Abdomen: +BS, slightly distended, nontender, PEG in place.
   Extremities: 1+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with hand movements. Pt able to move all extremities to visual command.
   Labs / Radiology
   295 K/uL
   8.4 g/dL
   108 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   19 mg/dL
   102 mEq/L
   132 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
                             [**2164-2-22**]  04:13 AM
   WBC
   13.6
   15.7
   16.4
   12.7
   12.5
   12.3
   11.7
   10.5
   Hct
   27.8
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   24.9
   Plt
   138
   166
   152
   152
   140
   174
   250
   295
   Cr
   2.3
   2.0
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   1.3
   Glucose
   110
   109
   123
   106
   115
   111
   125
   94
   108
   Other labs: PT / PTT / INR:13.2/33.0/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:6.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone here with resolved sepsis s/p PEG
   placement continuing to require ventilatory support..
   # Pneumonia: Culture data has been negative to date. He has completed a
   10day course of Levofloxacin and Zosyn. Pt
s clinical examination is
   improving. CPAP 15/8, pt still has pleural effusions. As the patient is
   stabilizing and may have post ATN diuresis, will aim to keep his I/O
   even. Pt
s leukocytosis is currently improving will continue to trend.
   Last sputum cx was no growth.
   - Patient was 200 cc negative yesterday.  Continue to aim for even I/0,
   using prn lasix as needed.  Can also further decrease the free water
   flushes as his Na has been stable (had been previously increased due to
   hypernateremia).
    # Upper extremity thrombus: Patient was found to have occlusive
   thrombus around his PICC and is s/p PICC removal.  Anticoagulation was
   not started given his recent rectus hematoma and bleeding around his
   central line site.
   - Request is in for Rt midline placement
   - Will d/c central line once midline is placed
   # Anemia: Pt
s Hct decreased two days ago to 23 with an increase to 29
   following 1 unit of transfusion. Pt shows no increase in stool output
   so it is highly unlikely given the Hct drop that the pt has a GI bld
   that explains it. Given his current BPS a retroperitoneal bleed is also
   unlikely. Given the large increase in Hct, yesterday
s Hct may be a
   combination of lab error and dilution as pt is still volume
   overloaded.  Hct last night and today are stable at 26.5
 27.3)
   - Hct continues to drop will likely need abdominal imaging to check for
   RP bleed.
   - Will hold off on anticoagulation with Heparin SQ and use pneumoboots
   for ppx.
   - Trend daily Hct.
   # New liver masses seen on CT:  The patient has a history of 3
   malignancies and has widespread bony metastatic disease from prostate
   cancer now with new masses seen on CT likely representing metastases.
   - family meeting recently held and during which the family were advised
   that CPR would not be medically indicated which family understood
   # Sedation: Pt is currently weaned off  the Fentanyl gtt and on
   Fentanyl patch which has been on for several days. If pt becomes
   agitated will try Haldol PRN, if agitation still occurs will give
   Fentayl boluses only.
   - Continue Fentanyl patch
   - consider Haldol PRN if pt becomes agitated
   - Trazadone prn for insomnia
   # Acute Kidney Injury: Cr now decreasing and at 1.5 (from an admission
   of 3.0).  Pt
s kidney function improving as he is recovering from
   likely ATN.
   - Continue to trend Cr.
   # Hypertension:
   - Continue amlodipine and metoprolol.
   # Scrotal Edema: Improving.  Pt noted have severe scrotal edema, no
   skin breakdown noted. Will elevate scrotum with sling, edematous state
   likely [**3-5**] decreased oncotic pressures [**3-5**] poor nutritional status.
   With tube feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-21**] 11:03 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2164-2-21**] 02:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-22 12:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   midline PICC placed yest. Accepted at [**Hospital1 2428**] but refused by family who
   prefer [**Hospital1 1884**]. No complaints
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Synthroid, Peridex, RISS, Colace, Senna, Lopressor, fentanyl patch,
   Prevacid, Norvasc, Fe
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-22**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 66 (65 - 82) bpm
   BP: 132/61(79) {116/51(68) - 166/75(96)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 56.8 kg
   Height: 62 Inch
             Total In:
                                                                  2,429 mL
                                                                  1,199 mL
   PO:
             TF:
                                                                  1,126 mL
                                                                    555 mL
   IVF:
                                                                    193 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  1,340 mL
   Urine:
                                                                  2,290 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    139 mL
                                                                   -141 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 457 (360 - 520) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: R >> L)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, sig scrotal edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   295 K/uL
   108 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   19 mg/dL
   102 mEq/L
   132 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2164-2-16**]  04:46 AM
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
                             [**2164-2-22**]  04:13 AM
   WBC
   13.6
   15.7
   16.4
   12.7
   12.5
   12.3
   11.7
   10.5
   Hct
   27.8
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   24.9
   Plt
   138
   166
   152
   152
   140
   174
   250
   295
   Cr
   2.3
   2.0
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   1.3
   Glucose
   110
   109
   123
   106
   115
   111
   125
   94
   108
   Other labs: PT / PTT / INR:13.2/33.0/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:6.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)- resolving slowly with
   evidence of necrosis on CXR
   -cont Zosyn + levofloxacin x total 10d
   -cont PSV, gentle weaning
   -minimize sedation
   -gentle diuresis as tolerated --> goal even to slightly neg w/ po lasix
   RECTUS SHEATH HEMATOMA- supp mgmt
   LUE DVT- catheter-associated, now w/ LUE PICC d/c'd
   -R midline to be placed today, will dc femoral line
    LIVER METS- s/p family mtg yest
   ACUTE RENAL FAILURE- resolved, back to baseline
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
    MALNUTRITION- cont tube feeds w/ free h20 flushes, ok to give ice
   chips as epiglottis is sown over
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-22**] 09:55 AM 45 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2164-2-21**] 02:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2164-02-23 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got lasix 40mg po bid
   - I/O goal met -500cc
   - Case management unable to reach family to discuss rehab
   - VBG on PS/PEEP of [**11-8**] (decrease from [**1-8**]): 7.37/46/31
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-23**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96
   HR: 68 (64 - 79) bpm
   BP: 141/60(78) {111/49(65) - 156/72(92)} mmHg
   RR: 24 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 56.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,904 mL
                                                                    359 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    294 mL
   IVF:
                                                                    242 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                    435 mL
   Urine:
                                                                  1,975 mL
                                                                    235 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -471 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 341 (341 - 457) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 162
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 5.1 L/min
   Physical Examination
   General: Elderly Male intubated via trach in NAD.
   HEENT: OP clear
   Pulmonary: CTAB
   Cardiac: RRR, no MRG
   Abdomen: +BS, soft, nontender, ND, PEG in place.
   Extremities: 1+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with hand movements. Pt able to move all extremities to visual command.
   Labs / Radiology
   391 K/uL
   8.7 g/dL
   129 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   21 mg/dL
   102 mEq/L
   137 mEq/L
   26.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
                             [**2164-2-22**]  04:13 AM
                             [**2164-2-23**]  04:56 AM
   WBC
   15.7
   16.4
   12.7
   12.5
   12.3
   11.7
   10.5
   10.1
   Hct
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   24.9
   26.0
   Plt
   166
   152
   152
   140
   174
   250
   295
   391
   Cr
   2.0
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   1.3
   1.5
   Glucose
   109
   123
   106
   115
   111
   125
   94
   108
   129
   Other labs: PT / PTT / INR:12.7/33.4/1.0, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   [1][**2164-2-21**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2164-2-19**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [3][**2164-2-18**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [4][**2164-2-17**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   Assessment and Plan
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone here with resolved sepsis s/p PEG
   placement continuing to require ventilatory support.
   # Pneumonia/Respiratory status: Culture data has been negative to date.
   He has completed a 10day course of Levofloxacin and Zosyn. Pt
   clinical examination is improving. CPAP [**11-8**], pt still has pleural
   effusions. Pt
s leukocytosis is currently improving will continue to
   trend.  Last sputum cx was no growth.
   - Improved now s/p 10 day course of Zosyn and Levofloxacin
   - Continue lasix 40 mg [**Hospital1 **] for a goal diuresis of 500 cc to 1 L
   negative as he is still 19.6 L positive for LOS.
   - Continue atrovent nebs and albuterol prn
    # Upper extremity thrombus: Patient was found to have occlusive
   thrombus around his PICC and is s/p PICC removal.  Anticoagulation was
   not started given his recent rectus hematoma and bleeding around his
   central line site.  Rt mid line placed on the left.
   -  No anticoagulation given risk for bleeding.
   # Anemia: Pt
s Hct has been stable at 26.0 today.   No clinical
   evidence of bleeding.
   - Trend daily Hct.
   - Continue Fe daily.
   # New liver masses seen on CT:  The patient has a history of 3
   malignancies and has widespread bony metastatic disease from prostate
   cancer now with new masses seen on CT likely representing metastases.
   - family meeting recently held and during which the family were advised
   that CPR would not be medically indicated.
   # Sedation: Pt is currently weaned off  the Fentanyl gtt and on
   Fentanyl patch which has been on for several days. If pt becomes
   agitated will try Haldol PRN, if agitation still occurs will give
   Fentayl boluses only.
   - Continue Fentanyl patch
   - consider Haldol PRN if pt becomes agitated
   - Trazadone prn for insomnia
   # Acute Kidney Injury: Cr now decreasing and at 1.5 (from an admission
   of 3.0).  Pt
s kidney function improving as he is recovering from
   likely ATN.
   - Continue to trend Cr.
   # Hypertension:
   - Continue amlodipine and metoprolol.
   # Hypothyroidism:
   - Continue levothyroxine.
   # Scrotal Edema: Improving.  Pt noted have severe scrotal edema, no
   skin breakdown noted. Will elevate scrotum with sling, edematous state
   likely [**3-5**] decreased oncotic pressures [**3-5**] poor nutritional status.
   With tube feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-22**] 09:55 AM 45 mL/hour
   Glycemic Control:  SSI
   Lines:
   Midline - [**2164-2-21**] 02:08 PM
   Prophylaxis:
   DVT: pneumoboots (no SQH given recent rectal sheath bleed)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: undergoing screnning for rehab
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2164-02-23 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   accepted at vent weaning facility today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   RISS, Synthroid, Atrovent, Colace, Senna, metoprolol, fentanyl patch,
   Prevacid, amlodipine, Fe supp
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-23**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 71 (64 - 84) bpm
   BP: 146/63(82) {111/49(65) - 165/72(93)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 56.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,902 mL
                                                                    699 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    523 mL
   IVF:
                                                                    242 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                    825 mL
   Urine:
                                                                  1,975 mL
                                                                    625 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -473 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 301 (301 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 47
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 162
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 11.3 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: R >> L)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   391 K/uL
   129 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   21 mg/dL
   102 mEq/L
   137 mEq/L
   26.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2164-2-17**]  03:42 AM
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
                             [**2164-2-22**]  04:13 AM
                             [**2164-2-23**]  04:56 AM
   WBC
   15.7
   16.4
   12.7
   12.5
   12.3
   11.7
   10.5
   10.1
   Hct
   30.2
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   24.9
   26.0
   Plt
   166
   152
   152
   140
   174
   250
   295
   391
   Cr
   2.0
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   1.3
   1.5
   Glucose
   109
   123
   106
   115
   111
   125
   94
   108
   129
   Other labs: PT / PTT / INR:12.7/33.4/1.0, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)- resolving slowly with
   evidence of necrosis on CXR
   -cont Zosyn + levofloxacin x total 10d now dc/d
   -cont PSV, gentle weaning
   -minimize sedation
   -gentle diuresis as tolerated --> goal even to slightly neg w/ po lasix
   40 [**Hospital1 **]
   RECTUS SHEATH HEMATOMA- supp mgmt
   LUE DVT- catheter-associated, now w/ LUE PICC d/c'd
   -R midline to be placed today, will dc femoral line
    LIVER METS- s/p family mtg, DNR but continue aggressive tx measures
   ACUTE RENAL FAILURE- resolved, back to baseline
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
    MALNUTRITION- cont tube feeds w/ free h20 flushes, ok to give ice
   chips as epiglottis is sown over
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-23**] 07:03 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2164-2-21**] 02:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2164-02-24 10:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Bed found at [**Hospital1 1884**] will transfer this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2164-2-23**] 09:22 PM
   Haloperidol (Haldol) - [**2164-2-23**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-24**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 61 (58 - 94) bpm
   BP: 124/53(68) {116/49(64) - 179/90(105)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 56.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,382 mL
                                                                    559 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    479 mL
   IVF:
                                                                    242 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                  1,015 mL
   Urine:
                                                                  1,535 mL
                                                                    465 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    550 mL
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 356 (327 - 412) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 5.4 L/min
   Physical Examination
   General: Elderly Male intubated via trach in NAD.
   HEENT: OP clear
   Pulmonary: CTAB
   Cardiac: RRR, no MRG
   Abdomen: +BS, soft, slight tenderness near the PEG, no discharge or
   erythema present, ND, PEG in place.
   Extremities: 1+ edema in b/l upper extremities.
   Neurologic: Pt spontaneously opens his eyes, is able to communicate
   with hand movements. Pt able to move all extremities to visual command.
   Labs / Radiology
   396 K/uL
   8.5 g/dL
   110 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   20 mg/dL
   101 mEq/L
   135 mEq/L
   25.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
                             [**2164-2-22**]  04:13 AM
                             [**2164-2-23**]  04:56 AM
                             [**2164-2-24**]  03:26 AM
   WBC
   16.4
   12.7
   12.5
   12.3
   11.7
   10.5
   10.1
   8.4
   Hct
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   24.9
   26.0
   25.2
   Plt
   152
   152
   140
   174
   [**Telephone/Fax (2) 4213**]96
   Cr
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   1.3
   1.5
   1.4
   Glucose
   123
   106
   115
   111
   125
   94
   108
   129
   110
   Other labs: PT / PTT / INR:13.1/33.4/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   85 y.o. Male w/ papillary thyroid CA s/p thyroidectomy with radioactive
   iodine ablation, SCC of the larynx s/p total laryngectomy w/ modified
   radical neck dissection with stoma, metastatic prostate cancer with
   metastatic lesions to the bone here with resolved sepsis s/p PEG
   placement continuing to require ventilatory support.
   # Pneumonia/Respiratory status: Culture data has been negative to date.
   He has completed a 10day course of Levofloxacin and Zosyn. Pt
   clinical examination is improving. CPAP [**11-8**], pt still has pleural
   effusions. Pt
s leukocytosis is currently improving will continue to
   trend.  Last sputum cx was no growth.
   - Improved now s/p 10 day course of Zosyn and Levofloxacin
   - Continue lasix 40 mg [**Hospital1 **] for a goal diuresis of 500 cc to 1 L
   negative as he is still ~ 19 L positive for LOS.
   - Continue atrovent nebs and albuterol prn
    # Upper extremity thrombus: Patient was found to have occlusive
   thrombus around his PICC and is s/p PICC removal.  Anticoagulation was
   not started given his recent rectus hematoma and bleeding around his
   central line site.  Rt mid line placed on the left.
   -  No anticoagulation given risk for bleeding.
   # Anemia: Pt
s Hct has been stable at 25.2 today.   No clinical
   evidence of bleeding.
   - Trend daily Hct.
   - Continue Fe daily.
   # New liver masses seen on CT:  The patient has a history of 3
   malignancies and has widespread bony metastatic disease from prostate
   cancer now with new masses seen on CT likely representing metastases.
   - family meeting recently held and during which the family were advised
   that CPR would not be medically indicated.
   # Sedation: Pt is currently weaned off  the Fentanyl gtt and on
   Fentanyl patch which has been on for several days. If pt becomes
   agitated will try Haldol PRN, if agitation still occurs will give
   Fentayl boluses only.
   - Continue Fentanyl patch
   - consider Haldol PRN if pt becomes agitated
   - Trazadone prn for insomnia
   # Acute Kidney Injury: Cr now decreasing and at 1.54 (from an admission
   of 3.0).  Pt
s kidney function improving as he is recovering from
   likely ATN.
   - Continue to trend Cr.
   # Hypertension:
   - Continue amlodipine and metoprolol.
   # Hypothyroidism:
   - Continue levothyroxine.
   # Scrotal Edema: Improving.  Pt noted have severe scrotal edema, no
   skin breakdown noted. Will elevate scrotum with sling, edematous state
   likely [**3-5**] decreased oncotic pressures [**3-5**] poor nutritional status.
   With tube feeds nutrition should slowly improve.
   Persons of contact:
   [**Name (NI) **] [**Name2 (NI) 1144**](Primary person of contact)
   Home [**Telephone/Fax (1) 3861**]
   Cell [**Telephone/Fax (1) 3862**]
   Work [**Telephone/Fax (1) 3863**]
   Daughter ([**Doctor First Name 1134**])
   [**Telephone/Fax (1) 3864**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-22**] 09:55 AM 45 mL/hour
   Glycemic Control:  SSI
   Lines:
   Midline - [**2164-2-21**] 02:08 PM
   Prophylaxis:
   DVT: pneumoboots (no SQH given recent rectal sheath bleed)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: has a bed at  rehab today

2164-02-24 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Switched to ACV overngiht.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2164-2-23**] 09:22 PM
   Haloperidol (Haldol) - [**2164-2-23**] 10:21 PM
   Other medications:
   Synthroid, Peridex, Atrovent, RISS, Colace, Senna, Lopressor, Fentanyl,
   lansoprazole, amlodipine, Fe supp
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-24**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 61 (58 - 94) bpm
   BP: 124/53(68) {116/49(64) - 179/90(105)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 56.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,382 mL
                                                                    563 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    483 mL
   IVF:
                                                                    242 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                  1,015 mL
   Urine:
                                                                  1,535 mL
                                                                    465 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    550 mL
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 356 (327 - 412) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 5.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   396 K/uL
   110 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   20 mg/dL
   101 mEq/L
   135 mEq/L
   25.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2164-2-17**]  05:00 PM
                             [**2164-2-18**]  02:52 AM
                             [**2164-2-19**]  03:48 AM
                             [**2164-2-19**]  05:00 PM
                             [**2164-2-20**]  01:36 AM
                             [**2164-2-20**]  04:52 PM
                             [**2164-2-21**]  03:54 AM
                             [**2164-2-22**]  04:13 AM
                             [**2164-2-23**]  04:56 AM
                             [**2164-2-24**]  03:26 AM
   WBC
   16.4
   12.7
   12.5
   12.3
   11.7
   10.5
   10.1
   8.4
   Hct
   29.3
   27.7
   25.3
   23.2
   29.0
   26.5
   27.3
   24.9
   26.0
   25.2
   Plt
   152
   152
   140
   174
   [**Telephone/Fax (2) 4213**]96
   Cr
   1.8
   1.8
   1.6
   1.7
   1.5
   1.5
   1.3
   1.5
   1.4
   Glucose
   123
   106
   115
   111
   125
   94
   108
   129
   110
   Other labs: PT / PTT / INR:13.1/33.4/1.1, CK / CKMB /
   Troponin-T:450/4/<0.01, ALT / AST:[**12-19**], Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:33/26, Differential-Neuts:94.5 %, Band:44.0 %,
   Lymph:2.5 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)- resolving slowly with
   evidence of necrosis on CXR
   -cont Zosyn + levofloxacin x total 10d now dc/d
   -cont PSV, gentle weaning
   -minimize sedation
   -gentle diuresis as tolerated --> goal even to slightly neg w/ po lasix
   40 [**Hospital1 **]
   RECTUS SHEATH HEMATOMA- supp mgmt
   LUE DVT- catheter-associated, now w/ LUE PICC d/c'd
   -R midline to be placed today, will dc femoral line
    LIVER METS- s/p family mtg, DNR but continue aggressive tx measures
   ACUTE RENAL FAILURE- resolved, back to baseline
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)- stable
    MALNUTRITION- cont tube feeds w/ free h20 flushes, ok to give ice
   chips as epiglottis is sown over
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2164-2-24**] 04:12 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2164-2-21**] 02:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes